2126-06-19 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TUNNELED ([** **]) LINE - START [**2126-6-18**] 10:00 AM
 ARTERIAL LINE - START [**2126-6-18**] 11:00 AM
   - dx with paraflu
   - started on Oseltamivir per ID, also started on clindamycin, changed
   to voriconazole, and cipro; continue on cefepime
   - getting induced sputum with AFB, cx, PCP
   [**Name Initial (PRE) **] [**Name9 (PRE) 7124**] serology sent
   - during night was on non-rebreather for about 3 hours, was given lasix
   20mg IV and had 600ml urine output, this AM back on 70% mask
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2126-6-18**] 04:30 PM
   Vancomycin - [**2126-6-18**] 07:54 PM
   Voriconazole - [**2126-6-18**] 09:54 PM
   Acyclovir - [**2126-6-19**] 12:08 AM
   Cefipime - [**2126-6-19**] 01:57 AM
   Clindamycin - [**2126-6-19**] 01:58 AM
   Ciprofloxacin - [**2126-6-19**] 06:41 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2126-6-19**] 02:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-6-19**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 98 (85 - 118) bpm
   BP: 132/54(77) {101/42(61) - 182/80(106)} mmHg
   RR: 23 (15 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,759 mL
                                                                  2,004 mL
   PO:
                                                                    340 mL
                                                                    160 mL
   TF:
   IVF:
                                                                  1,963 mL
                                                                  1,073 mL
   Blood products:
   Total out:
                                                                  3,250 mL
                                                                  1,800 mL
   Urine:
                                                                  3,100 mL
                                                                  1,800 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                    509 mL
                                                                    204 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 99%
   ABG: 7.54/32/141/25/5
   PaO2 / FiO2: 141
   Physical Examination
   General Appearance: NAD, speaking in full sentences without shortness
   of breath, mild use of accessory muscles
   Eyes / Conjunctiva: icteric sclerae
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   left base, Wheezes : very occasional bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, mild distention
   Extremities: Right: Absent, Left: Absent
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   24 K/uL
   9.0 g/dL
   129 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.2 mEq/L
   28 mg/dL
   111 mEq/L
   143 mEq/L
   25.5 %
        [image002.jpg]
                             [**2126-6-18**]  11:27 AM
                             [**2126-6-18**]  02:10 PM
                             [**2126-6-18**]  06:38 PM
                             [**2126-6-18**]  08:48 PM
                             [**2126-6-19**]  01:19 AM
                             [**2126-6-19**]  04:01 AM
                             [**2126-6-19**]  04:31 AM
   Hct
   25.5
   Plt
   24
   Cr
   0.4
   TCO2
   27
   26
   26
   27
   24
   28
   Glucose
   129
   Other labs: ALT / AST:61/76, Alk Phos / T Bili:224/4.5, Lactic Acid:1.6
   mmol/L, Albumin:1.9 g/dL, LDH:432 IU/L, Ca++:7.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
 DIARRHEA
 LIVER FUNCTION ABNORMALITIES
 HYPOXEMIA
   65 yo M day +68 s/p nonablative matched unrelated donor stem cell
   transplant for MDS, CAD, chronic low back pain initially admitted for
   FTT, diarrhea and transferred to [**Hospital Unit Name 4**] for worsening respiratory
   distress and hypoxia.
   .
   #) Hypoxia - With imaging revealing bilateral ground-glass opacities
   and recent bandemia, although in setting of G-CSF, that are worrisome
   for infectious etiologies. He has been on broad spectrum coverage for
   possible bacterial and fungal etiologies for the past few days and is
   worsening. Other possible infectious etiologies include viral causes
   including CMV (but recently has had negative CMV VLs), adenovirus,
   parainfluenza, or influenza (less likely as has been hospitalized). PCP
   is also [**Name Initial (PRE) **] possibility.  Pulmonary had been consulted who recommended
   bronchoscopy. Other possibilities include GVHD, BOOP, COP, acute
   eosinophilic pneumonia, or component of volume overload/pulm edema.
   Doubt diffuse alveolar hemorrhage.
   - Check induced sputum when pt is able to tolerate.
   - Will hold on bronchoscopy for now given hypoxia. If intubated, will
   proceed. Alternatively, may be able to wean O2 to point that may be
   able to proceed with bronchoscopy.
   - Check RRVS, culture, r/o influenza. Hold on empiric tamiflu for now
   per ID.
   - Droplet precautions.
   - Repeat ABG. If continued severe hypoxia, will have low threshold to
   intubate.
   - Continue to monitor urine output. Goal I/O negative 1 to 1.5 liters.
   - Check urinary legionella, urine histo Ag, serum crypto Ag, adenovirus
   PCR, mycoplasma IgM/IgG, and stool viral PCR.
   - Check serum IgG.
   - Continue broad spectrum abx coverage for now with vancomycin,
   cefepime, acyclovir, micafungin, atovaquone.
   - Nebs prn.
   - Appreciate ID following, will f/u recs.
   .
   #) Bloody diarrhea - Has had extensive prior work-up including
   sigmoidoscopy [**5-11**] with path being c/w GVHD. Stool volumes have varied
   with how much steroids and other immunosuppresion pt has received. s/p
   inflixumab on [**6-13**].
   - f/u GI recs.
   - Will hold on repeat sigmoidoscopy for now given respiratory status.
   - Continue current immunosuppresion with methylprednisolone,
   budesonide, cyclosporine, and cellcept.
   .
   #) Elevated LFTs - Differential diagnosis includes GVHD of liver, drug
   effect, cholestasis [**2-4**] prolonged TPN requirement. MRCP limited by pt
   movement but did demonstrate dilation of extrahepatic duct without any
   stones.
   - Appreciate hepatology consult.
   - Hold on possibility of ERCP for now.
   - Continue to monitor daily.
   .
   #) Rash - [**2-4**] GVHD. Plan as above. Monitor FS with HISS while on high
   dose steroids.
   .
   #) MDS s/p BMT: Continue Cyclosporine, Ursodiol, Acyclovir, micafungin,
   cellcept, methylprednisolone, budesonide. Will follow-up primary BMT
   team recommendations.
   .
   #) HTN - Continue metoprolol 50 mg [**Hospital1 **], nifedipine 20 mg q8h. [**Month (only) 8**] have
   difficult to manage htn in the setting of cyclosporine and steroids.
   .
   #) Pain - Continue oxycontin and oxycodone (percocet in house)
   .
   #) CAD - Continue beta-blocker. Not on ASA in peri transplant setting.
   .
   #) Access - Tunneled triple lumen [**Last Name (LF) 7108**], [**First Name3 (LF) **]
   #) FEN/Lytes - TPN, replete lytes prn
   #) Ppx
 pneumoboots, PPI
   #) Code status - FULL CODE confirmed with patient
   #) Communication - wife [**Name (NI) 7112**] [**Telephone/Fax (1) 7113**] (cell)
   #) Dispo - ICU level of care for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2126-6-18**] 10:00 AM 104 mL/hour
   Glycemic Control:
   Lines:
   Tunneled ([**Year (4 digits) 7108**]) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-06-22 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.0
F - [**2126-6-21**] 11:00 AM
   - changed to PC
   - started tx with Cidofovir per ID for adenovirus, also on IVF and
   probenicid for renal protection while on medication
   - LR given to slowly correct Na, was 155
   - holding off on sigmoidoscopy
   - pt without any BMs, bowel exam normal, KUB for AM rounds ordered
   - held cyclosporine due to elevated level, evening level unable to be
   checked, so held 10pm dose also, will recheck in AM
   - decreased steriods and cellcept level
   - Per ID- wanted to d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 7187**], [**First Name3 (LF) 124**] first discuss with BMT
   - BAL negative for PCP, [**Name10 (NameIs) **] clinda was stopped
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2126-6-21**] 07:30 AM
   Ciprofloxacin - [**2126-6-21**] 06:12 PM
   Vancomycin - [**2126-6-21**] 07:30 PM
   Acyclovir - [**2126-6-22**] 12:05 AM
   Voriconazole - [**2126-6-22**] 12:50 AM
   Cefipime - [**2126-6-22**] 02:33 AM
   Infusions:
   Midazolam (Versed) - 9 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Fentanyl - [**2126-6-22**] 04:38 AM
   Midazolam (Versed) - [**2126-6-22**] 07:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-6-22**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.2
C (97.2
   HR: 101 (88 - 119) bpm
   BP: 128/62(84) {90/46(60) - 141/69(90)} mmHg
   RR: 13 (13 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  8,598 mL
                                                                  1,482 mL
   PO:
             TF:
   IVF:
                                                                  4,913 mL
                                                                    658 mL
   Blood products:
   Total out:
                                                                  2,495 mL
                                                                    395 mL
   Urine:
                                                                  2,495 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,103 mL
                                                                  1,087 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 70%
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.44/42/89.[**Numeric Identifier 299**]/28/3
   Ve: 10.3 L/min
   PaO2 / FiO2: 127
   Physical Examination
   GEN: Intubated, sedated
   CV: tachycardic
   CHEST: b/l breath sounds
   Abd: soft, mild distention, hypoactive BS
   Ext: palpable pulses
   Labs / Radiology
   45 K/uL
   8.8 g/dL
   94 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.4 mEq/L
   58 mg/dL
   116 mEq/L
   152 mEq/L
   27.0 %
   6.0 K/uL
        [image002.jpg]
                             [**2126-6-21**]  04:49 AM
                             [**2126-6-21**]  08:26 AM
                             [**2126-6-21**]  10:37 AM
                             [**2126-6-21**]  12:45 PM
                             [**2126-6-21**]  03:14 PM
                             [**2126-6-21**]  06:23 PM
                             [**2126-6-22**]  12:11 AM
                             [**2126-6-22**]  03:52 AM
                             [**2126-6-22**]  04:14 AM
                             [**2126-6-22**]  06:49 AM
   WBC
   2.8
   6.0
   Hct
   23.2
   27.0
   Plt
   29
   45
   Cr
   0.7
   0.8
   TCO2
   32
   34
   34
   32
   32
   35
   33
   29
   Glucose
   88
   94
   Other labs: PT / PTT / INR:12.5/32.1/1.1, ALT / AST:122/176, Alk Phos /
   T Bili:225/4.6, Amylase / Lipase:383/10, Differential-Neuts:89.0 %,
   Band:3.0 %, Lymph:6.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:1.9 g/dL, LDH:676 IU/L, Ca++:7.7 mg/dL, Mg++:2.6 mg/dL, PO4:5.2
   mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 DIARRHEA
 LIVER FUNCTION ABNORMALITIES
 HYPOXEMIA
   65M s/p nonablative matched unrelated donor SCT for MDS, CAD, chronic
   LBP, initially admitted for diarrhea, transferred to the [**Hospital Unit Name 4**] for
   worsening respiratory distress and hypoxia.
   # Hypoxia: Likely [**2-4**] infection. Has parainfluenza, and now also high
   level viremia of adenovirus. Also at high risk for other infection. [**Month (only) 8**]
   also have worsened hypoxia from pulm edema vs GVHDz in the lung. [**6-18**]
   stopped atovaquone and changed to clindamycin, and changed micafungin
   to voriconazole. S/p intubation [**6-20**]. Mini-BAL on [**6-20**] with GNRs.
   - vancomycin, cefepime, acyclovir, voriconazole ([**6-18**]- ), clindamycin
   ([**6-18**]- ), and cipro ([**6-18**]- ). On vent now with higher FIO2, concern for
   ARDs.
   - oseltamivir
   - continue mechanical ventilation
   - monitor ABGs
   - diurese negative -500cc /24 hrs if BP allows
   - f/u pending studies/cxs
   - nebs prn
   - f/u ID recs
   - if PCP negative will change back from clindamycin to pentamidine
   - f/u results of mini-BAL
   - will change to pressure control
   - bronch today to look for DAH
   - increase PEEP
   # Bloody diarrhea: Has had extensive prior work-up including
   sigmoidoscopy [**5-11**] with path being c/w GVHD. Stool volumes have varied
   with how much steroids and other immunosuppresion pt has received. s/p
   inflixumab on [**6-13**].
   - f/u GI recs.
   - flexible sigmoidoscopy, will hold off
   - Continue current immunosuppresion with methylprednisolone,
   budesonide, cyclosporine, and cellcept
   - monitor lytes
   # Hypernatremia: likely from NS resuscitation. Given D5W on [**6-20**] for Na
   of 151.
   - 250cc free water flushes q4h
   - LR boluses for hypotension
   - monitor Na q8h
   # Elevated LFTs: Stable. Differential diagnosis includes GVHD of liver
   vs. drug effect, cholestasis [**2-4**] prolonged TPN requirement. MRCP
   limited by pt movement but did demonstrate dilation of extrahepatic
   duct without any stones.
   - Appreciate hepatology consult.
   - Hold on possibility of ERCP for now until better respiratory status
   - Continue to monitor daily.
   .
   # Rash: - [**2-4**] GVHD. Plan as above. Monitor FS with HISS while on high
   dose steroids.
   # MDS s/p BMT:
   - Continue Cyclosporine, Ursodiol, Acyclovir, micafungin, cellcept,
   methylprednisolone, budesonide.
   - BMT team recommendations
   - monitor neutrophil count
   - monitor cyclosporine level
   # HTN: thought to be elevated from cyclosporine. However with some
   borderline hypotension with diuresis and seadtion
   - continue metoprolol 25 [**Hospital1 **]
   - continue nifedipine 20 mg q8h
   # Pain:
   - Continue oxycontin and oxycodone (percocet in house)
   # CAD:
    - Continue beta-blocker. Not on ASA in peri transplant setting.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2126-6-22**] 06:28 AM 77.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   18 Gauge - [**2126-6-20**] 02:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-06-22 07:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    Allo-SCT 2
 months ago, GVHD
   Paraflu from resp sample
   Positive adenovirus viral load in blood
   24 Hour Events:
 FEVER - 102.0
F - [**2126-6-21**] 11:00 AM
   Converted to PCV
   Started on cidofovir
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2126-6-21**] 07:30 AM
   Ciprofloxacin - [**2126-6-21**] 06:12 PM
   Vancomycin - [**2126-6-21**] 07:30 PM
   Acyclovir - [**2126-6-22**] 12:05 AM
   Voriconazole - [**2126-6-22**] 12:50 AM
   Cefipime - [**2126-6-22**] 02:33 AM
   Infusions:
   Midazolam (Versed) - 9 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Fentanyl - [**2126-6-22**] 04:38 AM
   Midazolam (Versed) - [**2126-6-22**] 07:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-6-22**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.2
C (97.2
   HR: 101 (88 - 119) bpm
   BP: 128/62(84) {90/46(60) - 141/69(90)} mmHg
   RR: 13 (13 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  8,598 mL
                                                                  1,520 mL
   PO:
             TF:
   IVF:
                                                                  4,913 mL
                                                                    671 mL
   Blood products:
   Total out:
                                                                  2,495 mL
                                                                    395 mL
   Urine:
                                                                  2,495 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,103 mL
                                                                  1,125 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV  [**6-14**]
   Vt (Set): 600 (600 - 800) mL
   RR (Set): 26
   RR (Spontaneous): 30
   PEEP: 12 cmH2O
   FiO2: 70%
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.44/42/89
   Ve: 10.3 L/min
   PaO2 / FiO2: 127
   Physical Examination
   Intubated. Sedated, Edematous
   Lung prolonged exp phase with active exhalation
   Hrt tachy
   Lungs
 crackles left base
   Abd benign
   Extrem no edema
   Labs / Radiology
   8.8 g/dL
   45 K/uL
   94 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.4 mEq/L
   58 mg/dL
   116 mEq/L
   152 mEq/L
   27.0 %
   6.0 K/uL
        [image002.jpg]
                             [**2126-6-21**]  04:49 AM
                             [**2126-6-21**]  08:26 AM
                             [**2126-6-21**]  10:37 AM
                             [**2126-6-21**]  12:45 PM
                             [**2126-6-21**]  03:14 PM
                             [**2126-6-21**]  06:23 PM
                             [**2126-6-22**]  12:11 AM
                             [**2126-6-22**]  03:52 AM
                             [**2126-6-22**]  04:14 AM
                             [**2126-6-22**]  06:49 AM
   WBC
   2.8
   6.0
   Hct
   23.2
   27.0
   Plt
   29
   45
   Cr
   0.7
   0.8
   TCO2
   32
   34
   34
   32
   32
   35
   33
   29
   Glucose
   88
   94
   Other labs: PT / PTT / INR:12.5/32.1/1.1, ALT / AST:122/176, Alk Phos /
   T Bili:225/4.6, Amylase / Lipase:383/10, Differential-Neuts:89.0 %,
   Band:3.0 %, Lymph:6.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:1.9 g/dL, LDH:676 IU/L, Ca++:7.7 mg/dL, Mg++:2.6 mg/dL, PO4:5.2
   mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)  - receiving D5W, cause not clear, will
   check lytes, osms if persists
   Viral pna/viremia/resp failure
 continue current abx regimen, wean O2
   as tolerated, increase PEEP if needed, start bronchodilators
 LIVER FUNCTION ABNORMALITIES
 may eventually need ERCP, will discuss
   changing abx with ID to avoid liver tox
   MDS/s/p allo-SCT/GVHD
 continue cellcept, CSA, steroids, follow CSA
   levels
   ICU Care
   Nutrition: NPO
   TPN w/ Lipids - [**2126-6-22**] 06:28 AM 77.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   18 Gauge - [**2126-6-20**] 02:08 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:    PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :   ICU
   Total time spent:    38

2126-06-23 06:56:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - asynchronous w vent (AC), tried increasing sedation w propofol gtt in
   addition to midazolam and fentanyl gtt, started levophed for
   hypotension
   - increased PEEP 12
 15, changed FiO2 70
 60
 70%
   - +3L, unable to diurese due to hypotension
   - BMT: abx per ID
   - ID: may switch vori --> mica (concern for elev LFTs w vori), keep abx
   for now
   - started on bronchodilators
   - Na mild improvement w D5W
   - BAL w GNRs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2126-6-21**] 07:30 AM
   Voriconazole - [**2126-6-22**] 12:50 AM
   Acyclovir - [**2126-6-22**] 08:00 AM
   Vancomycin - [**2126-6-22**] 07:45 PM
   Cefipime - [**2126-6-23**] 02:15 AM
   Ciprofloxacin - [**2126-6-23**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Propofol - 80 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2126-6-22**] 02:57 PM
   Propofol - [**2126-6-22**] 08:08 PM
   Fentanyl - [**2126-6-22**] 08:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-6-23**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.4
C (99.3
   HR: 99 (99 - 132) bpm
   BP: 104/55(70) {85/40(55) - 148/72(163)} mmHg
   RR: 23 (13 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,863 mL
                                                                  2,028 mL
   PO:
             TF:
   IVF:
                                                                  4,767 mL
                                                                  1,600 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    465 mL
   Urine:
                                                                  1,550 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,313 mL
                                                                  1,563 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.31/62/122/27/3
   Ve: 13.8 L/min
   PaO2 / FiO2: 203
   Physical Examination
   GEN: Intubated, sedated, unresponsive
   CV: tachycardic
   CHEST: b/l breath sounds
   Abd: soft, mild distention, hypoactive BS
   Ext: palpable pulses
   Labs / Radiology
   28 K/uL
   7.3 g/dL
   193 mg/dL
   1.3 mg/dL
   27 mEq/L
   5.0 mEq/L
   84 mg/dL
   110 mEq/L
   145 mEq/L
   22.6 %
   4.3 K/uL
        [image002.jpg]
                             [**2126-6-22**]  03:52 AM
                             [**2126-6-22**]  04:14 AM
                             [**2126-6-22**]  06:49 AM
                             [**2126-6-22**]  10:59 AM
                             [**2126-6-22**]  02:37 PM
                             [**2126-6-22**]  05:57 PM
                             [**2126-6-22**]  09:37 PM
                             [**2126-6-22**]  09:56 PM
                             [**2126-6-22**]  11:02 PM
                             [**2126-6-23**]  04:10 AM
   WBC
   6.0
   4.3
   Hct
   27.0
   22.6
   Plt
   45
   28
   Cr
   0.8
   1.2
   1.3
   TCO2
   33
   29
   33
   30
   33
   33
   33
   Glucose
   94
   156
   193
   Other labs:
   PT / PTT / INR:13.3/39.6/1.1, ALT / AST:115/149, Alk Phos / T
   Bili:193/4.1, Amylase / Lipase:383/10,
   Differential-Neuts:89.0 %, Band:3.0 %, Lymph:6.0 %, Mono:1.0 %, Eos:0.0
   %,
   Lactic Acid:1.8 mmol/L, Albumin:1.6 g/dL, LDH:621 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.8 mg/dL, PO4:5.2 mg/dL
   MICRO:
   [**6-20**] BAL
 GNR
   Paraflu, adenoviremia
   Assessment and Plan
   65M w MDS s/p SCT ([**4-/2126**]), CAD, initially admitted for diarrhea,
   transferred to the [**Hospital Unit Name 4**] for hypoxia, now s/p intubation.
   # Respiratory failure: Likely [**2-4**] viral infection w GNR suprainfection.
   Parainfluenza Type 3 in nasal swab ([**6-18**]). Adenoviremia. Mini-BAL w
   GNRs ([**6-20**]). Also at high risk for other supra-infections. [**Month (only) 8**] also
   have worsened hypoxia from pulm edema vs GVHDz in the lung. [**6-18**]
   stopped atovaquone and changed to clindamycin, and changed voriconazole
   back to micafungin. S/p intubation [**6-20**].
   - vancomycin, cefepime, clindamycin ([**6-18**]- ), cipro ([**6-18**]- )
   - acyclovir
   - cidovir ([**6-21**] - ) for adenovirus
   - miconazole for fungal coverage
   - oseltamivir for parainfluenza
   - continue mechanical ventilation, attempt to decrease FiO2 today
   - monitor ABGs
   - diurese even to negative -500cc /24 hrs if BP allows
   - f/u pending studies/cxs
   - f/u ID recs
   # Hypotension: Decrease levophed and start phenylepiphrine if needed.
   Diurese even to negative -500cc /24 hrs if BP allows.
   # Bloody diarrhea: Has had extensive prior work-up including
   sigmoidoscopy [**5-11**] with path being c/w GVHD. Stool volumes have varied
   with how much steroids and other immunosuppresion pt has received. s/p
   inflixumab on [**6-13**]. Symptomatically better.
   - f/u GI recs. Patient currently not stable enough for sigmoidoscopy.
   - continue current immunosuppresion with methylprednisolone,
   budesonide, cyclosporine, and cellcept
   - monitor lytes
   # Hypernatremia: likely from NS resuscitation and high Na in TPN. Now
   improving.
   - discontinue D5W
   - LR boluses for hypotension
   - monitor Na [**Hospital1 **]
   # Acute Renal Failure: Most likely secondary to cidovir dose. Urine
   output adequate.
   - Send urine lytes
   - [**Hospital1 **] lytes
   # Acute Anemia: Close to prior baseline.
   - pm HCT
   # Elevated LFTs: Stable. Differential diagnosis includes GVHD of liver
   vs. drug effect, cholestasis [**2-4**] prolonged TPN requirement. MRCP
   limited by pt movement but did demonstrate dilation of extrahepatic
   duct without any stones. LFTs downtrending.
   - Continue to monitor daily.
   .
   # Rash: [**2-4**] GVHD. Plan as above. Monitor FS with HISS while on high
   dose steroids.
   # MDS s/p BMT:
   - Continue Cyclosporine, Ursodiol, Acyclovir, micafungin, cellcept,
   methylprednisolone, budesonide, atovaquone
   - BMT team recommendations
   - monitor neutrophil count
   - monitor cyclosporine level
   # CAD:
    - Continue beta-blocker. Not on ASA in peri transplant setting.
   ICU Care
   Nutrition: TPN
   Glycemic Control:  HISS
   Lines:
   Tunneled (Hickman) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   18 Gauge - [**2126-6-20**] 02:08 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: lansoprazole
   Communication:  Comments: wife
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2126-06-23 08:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2126-6-22**] 05:57 PM
 URINE CULTURE - At [**2126-6-22**] 05:57 PM
 FEVER - 101.9
F - [**2126-6-22**] 08:00 PM
   Losing some ground
   Asynchronous with vent, sedation increased
   Hypotension
 IVF then pressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2126-6-21**] 07:30 AM
   Voriconazole - [**2126-6-22**] 12:50 AM
   Acyclovir - [**2126-6-22**] 08:00 AM
   Vancomycin - [**2126-6-22**] 07:45 PM
   Cefipime - [**2126-6-23**] 02:15 AM
   Ciprofloxacin - [**2126-6-23**] 06:00 AM
   Tamiflu
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2126-6-22**] 02:57 PM
   Propofol - [**2126-6-22**] 08:08 PM
   Fentanyl - [**2126-6-22**] 08:26 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-6-23**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 36.2
C (97.1
   HR: 97 (97 - 132) bpm
   BP: 105/57(71) {85/40(55) - 148/72(163)} mmHg
   RR: 28 (15 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,862 mL
                                                                  2,791 mL
   PO:
             TF:
   IVF:
                                                                  4,767 mL
                                                                  1,868 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    465 mL
   Urine:
                                                                  1,550 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,312 mL
                                                                  2,326 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 93%
   ABG: 7.32/56/114/27/1
   Ve: 13.8 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Intubated, sedated, unresponsive
   Less prolonged exiratory phase, no wheezes
   Tachy
   Abd distended
   Extrem mild edema
   Labs / Radiology
   7.3 g/dL
   28 K/uL
   193 mg/dL
   1.3 mg/dL
   27 mEq/L
   5.0 mEq/L
   84 mg/dL
   110 mEq/L
   145 mEq/L
   22.6 %
   4.3 K/uL
        [image002.jpg]
                             [**2126-6-22**]  04:14 AM
                             [**2126-6-22**]  06:49 AM
                             [**2126-6-22**]  10:59 AM
                             [**2126-6-22**]  02:37 PM
                             [**2126-6-22**]  05:57 PM
                             [**2126-6-22**]  09:37 PM
                             [**2126-6-22**]  09:56 PM
                             [**2126-6-22**]  11:02 PM
                             [**2126-6-23**]  04:10 AM
                             [**2126-6-23**]  07:37 AM
   WBC
   4.3
   Hct
   22.6
   Plt
   28
   Cr
   1.2
   1.3
   TCO2
   33
   29
   33
   30
   33
   33
   33
   30
   Glucose
   156
   193
   Other labs: PT / PTT / INR:13.3/39.6/1.1, ALT / AST:115/149, Alk Phos /
   T Bili:193/4.1, Amylase / Lipase:383/10, Differential-Neuts:89.0 %,
   Band:3.0 %, Lymph:6.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L,
   Albumin:1.6 g/dL, LDH:621 IU/L, Ca++:7.9 mg/dL, Mg++:2.8 mg/dL, PO4:5.2
   mg/dL
   CXR slightly more prominent infiltrates
   Assessment and Plan
   Renal failure
 creatinine up from 0.3 to 1.3 over past week, concerned
   about med toxicity
 cidofovir most likely culprit, u/o adequate, avoid
   renal toxic meds
 HYPERNATREMIA (HIGH SODIUM)  - receiving D5W, cause not clear,
   improved, follow
   Pancytopenia
 all counts down, will repeat
   Hypotension
 suspect related to sepsis and his underlying infection,
   wean levophed as tolerated, replace with neo if unable in light of
   known normal EF
   Viral pna / viremia / resp failure
 continue current abx regimen, wean
   O2 as tolerated, increase PEEP if needed, start bronchodilators
   Daily fevers
 suspect related to viral pneumonia, cont to culture
 LIVER FUNCTION ABNORMALITIES
 may eventually need ERCP, avoid liver
   toxic meds, stable - follow
   MDS/s/p allo-SCT/GVHD
 continue cellcept, CSA, steroids, follow CSA
   levels
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2126-6-23**] 05:24 AM 77.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   18 Gauge - [**2126-6-20**] 02:08 PM
   Prophylaxis:
   DVT:   boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent:    40

2126-06-24 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2126-6-23**] 10:23 AM
   Renal U/S at bedside.
 FEVER - 101.5
F - [**2126-6-23**] 08:00 PM
   - renal worsening: U/S negative for obstruction, urine muddy brown, RBC
   > 1000
   - ID recs: d/c tamiflu, on cefepime/cipro for XANTHOMONAS (not bactrim
   due to renal failure), awaiting sensitivities
   - Due to tachycardia switched from levophen to phenyleph
   - Started on lasix drip with goal output 80-100cc/hr
   - Trying to wean sedation to assess hypotension 2 sepsis vs sedation
   - this AM, had afib with RVR to HR in 150s, giv e metoprolol IV x 2
   - EKG with ST elevations in inferior leads, cardiology consulted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2126-6-22**] 12:50 AM
   Acyclovir - [**2126-6-22**] 08:00 AM
   Cefipime - [**2126-6-23**] 08:00 AM
   Vancomycin - [**2126-6-23**] 08:11 AM
   Ciprofloxacin - [**2126-6-23**] 06:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 1.8 mcg/Kg/min
   Fentanyl - 225 mcg/hour
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2126-6-24**] 06:32 AM
   Fentanyl - [**2126-6-24**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-6-24**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.5
C (99.5
   HR: 136 (92 - 136) bpm
   BP: 117/61(73) {117/61(73) - 117/61(73)} mmHg
   RR: 31 (26 - 32) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  7,018 mL
                                                                  1,385 mL
   PO:
             TF:
   IVF:
                                                                  4,288 mL
                                                                    794 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,815 mL
                                                                    455 mL
   Urine:
                                                                  1,815 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,203 mL
                                                                    930 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.34/51/65/26/0
   Ve: 15.6 L/min
   PaO2 / FiO2: 108
   Physical Examination
   GEN: Intubated, sedated, unresponsive
   CV: tachycardic
   CHEST: b/l breath sounds
   Abd: soft, mild distention, hypoactive BS
   Ext: palpable pulses
   Labs / Radiology
   26 K/uL
   7.7 g/dL
   180 mg/dL
   1.6 mg/dL
   26 mEq/L
   4.7 mEq/L
   99 mg/dL
   106 mEq/L
   140 mEq/L
   22.5 %
   4.1 K/uL
        [image002.jpg]
                             [**2126-6-22**]  11:02 PM
                             [**2126-6-23**]  04:10 AM
                             [**2126-6-23**]  07:37 AM
                             [**2126-6-23**]  09:28 AM
                             [**2126-6-23**]  06:00 PM
                             [**2126-6-23**]  06:13 PM
                             [**2126-6-23**]  08:36 PM
                             [**2126-6-24**]  04:23 AM
                             [**2126-6-24**]  04:54 AM
                             [**2126-6-24**]  07:24 AM
   WBC
   4.3
   5.9
   4.1
   Hct
   22.6
   24.8
   22.5
   Plt
   28
   30
   26
   Cr
   1.3
   1.7
   1.6
   TCO2
   33
   30
   30
   30
   30
   30
   29
   Glucose
   193
   202
   180
   Other labs: PT / PTT / INR:12.3/35.3/1.0, CK / CKMB / Troponin-T:96//,
   ALT / AST:103/121, Alk Phos / T Bili:188/4.5, Amylase / Lipase:383/10,
   Differential-Neuts:89.0 %, Band:3.0 %, Lymph:6.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:470 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:1.6 g/dL,
   LDH:568 IU/L, Ca++:7.8 mg/dL, Mg++:2.8 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   65M w MDS s/p SCT ([**4-/2126**]), CAD, initially admitted for diarrhea,
   transferred to the [**Hospital Unit Name 4**] for hypoxia, now s/p intubation.
   # Respiratory failure: Likely [**2-4**] viral infection w Sternotrophomonas
   xanthomonas [**6-20**]. Parainfluenza Type 3 in nasal swab ([**6-18**]).
   Adenoviremia. [**Month (only) 8**] also have worsened hypoxia from pulm edema vs GVHDz
   in the lung. [**6-18**] stopped atovaquone and changed to clindamycin, and
   changed voriconazole back to micafungin. S/p intubation [**6-20**].
   Clindamycin ([**Date range (1) 7235**])
   - vancomycin, cefepime, cipro ([**6-18**]- )
   - acyclovir
   - cidovir ([**6-21**] - ) for adenovirus
   - miconazole for fungal coverage
   - oseltamivir for parainfluenza
   - continue mechanical ventilation, attempt to decrease PEEP, will
   increase FIO2 if needed
   - monitor ABGs
   - hold diuresis due to caridac issues
   - f/u pending studies/cxs sensetivities
   - f/u ID recs
   - consider paralytics if needed once propofol is decreased
   # Caridac ischemia/Afib with RVR: AM of [**6-24**],  had afib with RVR, then
   developed ST elevations on EKG. Concerning for ischemia in RV. Concern
   for CAD vs vasospasm due to pressors. Is preload dependent. Been on
   lasix gtt since last night.
   - cardiology recs
   - given transfusion
   - trying to wean propofol, so neo can be weaned if possible
   - consider ASA, however, plts low
   - will hold off on cath due to inability to anticoagulate
   - discontinue lasix gtt
   - try to derease PEEP but up titrating the FIO2
   - consider beta blocker, low dose
   - use dopamine if need a pressor
   - start statin
   - if presistant hypotension may need aortic balloon pump
   # Hypotension: On neo gtt, levo was weaned off. Was on lasix gtt
   - see above for plan to decrease neo and try to increase preload
   - transfuse if needed
   # Bloody diarrhea: Has had extensive prior work-up including
   sigmoidoscopy [**5-11**] with path being c/w GVHD. Stool volumes have varied
   with how much steroids and other immunosuppresion pt has received. s/p
   inflixumab on [**6-13**]. Symptomatically better.
   - f/u GI recs. Patient currently not stable enough for sigmoidoscopy.
   - continue current immunosuppresion with methylprednisolone,
   budesonide, cyclosporine, and cellcept
   - monitor lytes
   - start bowel meds, since no BMs
   # Hypernatremia: likely from NS resuscitation and high Na in TPN. Now
   resolved
   - monitor [**Hospital1 **] lytes
   # Acute Renal Failure: Most likely secondary to cidovir dose. Urine
   output adequate.  Now dark red urine. Lytes were more consitent with
   prerenal, but likely also has instrinsic renal damage from medicaiton.
   - renal consult
   - resent urine
   - [**Hospital1 **] lytes
   - renally dose meds
   - try to avoid further nephrotoxins
   # Acute Anemia: Close to prior baseline.
   - pm HCT
   # Elevated LFTs: Stable. Differential diagnosis includes GVHD of liver
   vs. drug effect, cholestasis [**2-4**] prolonged TPN requirement. MRCP
   limited by pt movement but did demonstrate dilation of extrahepatic
   duct without any stones. LFTs downtrending.
   - Continue to monitor daily.
   .
   # Rash: [**2-4**] GVHD. Plan as above. Monitor FS with HISS while on high
   dose steroids.
   # MDS s/p BMT:
   - Continue Cyclosporine, Ursodiol, Acyclovir, micafungin, cellcept,
   methylprednisolone, budesonide, atovaquone
   - BMT team recommendations
   - monitor neutrophil count
   - monitor cyclosporine level
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2126-6-24**] 04:36 AM 77.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:  HISS
   Lines:
   Tunneled (Hickman) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   22 Gauge - [**2126-6-24**] 01:06 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: lansoprazole
   Communication:  Comments: wife, has extreme anxiety
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   [**Name (NI) 7236**] pt no longer on acyclovir or tamiflu.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4029**], MD
   on:[**2126-6-24**] 09:31 ------

2126-06-24 09:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Sedated.
   Required iv lasix drip to maintain urine output yesterday -- good
   response.  Now off lasix drip.
   This AM, observed new A-fib on monitor --> EKG revealed new ST segment
   elevation inferiorly (with reciprocol changes in lateral leads),
   concern for acute MI.  Cardiology Consultation in progress.
   Cardiac echo revealed hypokinetic RV (preliminary report).
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2126-6-22**] 12:50 AM
   Acyclovir - [**2126-6-22**] 08:00 AM
   Cefipime - [**2126-6-23**] 08:00 AM
   Vancomycin - [**2126-6-23**] 08:11 AM
   Ciprofloxacin - [**2126-6-24**] 07:46 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 2 mcg/Kg/min
   Fentanyl - 225 mcg/hour
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2126-6-24**] 06:32 AM
   Fentanyl - [**2126-6-24**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-6-24**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.2
C (98.9
   HR: 124 (92 - 136) bpm
   BP: 97/48(65) {77/40(52) - 118/72(84)} mmHg
   RR: 31 (26 - 32) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  7,018 mL
                                                                  1,776 mL
   PO:
             TF:
   IVF:
                                                                  4,288 mL
                                                                  1,105 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,815 mL
                                                                    885 mL
   Urine:
                                                                  1,815 mL
                                                                    555 mL
   NG:
   330 mL
   Stool:
   Drains:
   Balance:
                                                                  5,203 mL
                                                                    894 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 94%
   ABG: 7.34/51/65/26/0
   Ve: 16 L/min
   PaO2 / FiO2: 93
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema, Scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal, Flaccid
   Labs / Radiology
   7.7 g/dL
   26 K/uL
   180 mg/dL
   1.6 mg/dL
   26 mEq/L
   4.7 mEq/L
   99 mg/dL
   106 mEq/L
   140 mEq/L
   22.5 %
   4.1 K/uL
        [image002.jpg]
                             [**2126-6-22**]  11:02 PM
                             [**2126-6-23**]  04:10 AM
                             [**2126-6-23**]  07:37 AM
                             [**2126-6-23**]  09:28 AM
                             [**2126-6-23**]  06:00 PM
                             [**2126-6-23**]  06:13 PM
                             [**2126-6-23**]  08:36 PM
                             [**2126-6-24**]  04:23 AM
                             [**2126-6-24**]  04:54 AM
                             [**2126-6-24**]  07:24 AM
   WBC
   4.3
   5.9
   4.1
   Hct
   22.6
   24.8
   22.5
   Plt
   28
   30
   26
   Cr
   1.3
   1.7
   1.6
   TCO2
   33
   30
   30
   30
   30
   30
   29
   Glucose
   193
   202
   180
   Other labs: PT / PTT / INR:12.3/35.3/1.0, CK / CKMB / Troponin-T:179//,
   ALT / AST:103/121, Alk Phos / T Bili:188/4.5, Amylase / Lipase:383/10,
   Differential-Neuts:89.0 %, Band:3.0 %, Lymph:6.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:470 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:1.6 g/dL,
   LDH:568 IU/L, Ca++:7.8 mg/dL, Mg++:2.8 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   65M s/p nonablative matched unrelated donor SCT for MDS, CAD, chronic
   LBP, initially admitted for diarrhea, transferred to the [**Hospital Unit Name 4**] for
   worsening respiratory distress and hypoxia.
   CAD -- evidence for acute MI this AM, RV distribution.  Known
   underlying CAD.  Cardiology recommends anticoagulation, ASA and
   possible cardiac cath --> however, not candidate for anticoabulation or
   ASA (high risk for bleed).  Not candidate for cardiac cath
   (infection).  Plan optimize hemodynamics (minimize hypotension).
   Initiate statin.  Attempt trial of b-blocker if tolerates
   hemodynamically.
   RESPIRATORY FAILURE -- persistent.  Attributed to infection
   (parainfluenza, adenovirsu).  At risk for ARDS, but also markedly
   positive fluid balance (may be component of left heart failure).
   Unclear whether component of GVHD.  Continue mechanical ventilation,
   antimicrobials.  Monitor ABG, maintain pH 7.35-7.40, pO2 >60 mmHg.
   Desire to maintain net negative fluid balance, if possible.  Optimize
   sedation to minimize dysynchrony.
   PNEUMONIA -- Parainfluenza, and now possibly Stenotrophomonas -->
   Cefopime, Cipro.
   SEPSIS -- Cefepime, Mycofungin, Ciprofloxicin, Cidofovir.
   RENAL FAILURE -- evolving oliguria, concern for medication related and
   hemodynamic (hypotension).  Now off lasix infusion.  Renal US
   unrevealing for obstruction.  Renal consultation in progresss.
   HYPERNATREMIA -- resolved.  Monitor Na.
   FLUIDS -- net volume overloaded.  Desire net negative fluid
   Elevated LFTs: Stable. -- attributed to GVDH vs. drug effect.   Also
   consider cholestasis [**2-4**] prolonged TPN requirement.
   RASH -- [**2-4**] GVHD.  Monitor FS with HISS tapering steroids. Cellcept,
   cyclosporin.
   MDS s/p BMT --  Continue Cyclosporine, Ursodiol, Acyclovir, micafungin,
   cellcept, methylprednisolone, budesonide.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2126-6-24**] 04:36 AM 77.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   22 Gauge - [**2126-6-24**] 01:06 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2126-06-25 06:48:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2126-6-24**] 09:00 AM
 EKG - At [**2126-6-24**] 05:10 PM
   - Developed afib with RVR, STE in lead III and STD in leads I and AVL
   noted on EKG, received metoprolol IV 5 mg x2, HR still elevated
   - CEs elevaed with trop peak of 1.6, EKG changes improved later in day,
   therefore, likely had vassospasm, cards would not be able to do cath
   due to inability to anitcoagulate
   - had repeat hypotension with afib with RVR, cardioverted x 3 at 100 J,
   150 J, and then 300 J, then started on amio gtt with loading bolus
   - cyclosporine reduced to 50mg [**Hospital1 **], will work on resheduling doses
   - renal saw muddy brown casts, likely intrinsic renal damage
   - neo gtt able to be stopped once amio gtt was in place
   - transfused 3 units RBCs, was still 21 after first unit
   - stopped cefepime, continued cipro and micafungin per ID team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2126-6-22**] 08:00 AM
   Cefipime - [**2126-6-23**] 08:00 AM
   Vancomycin - [**2126-6-23**] 08:11 AM
   Ciprofloxacin - [**2126-6-24**] 06:00 PM
   Micafungin - [**2126-6-25**] 04:07 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Amiodarone - 0.5 mg/min
   Fentanyl - 225 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-6-25**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 109 (94 - 150) bpm
   BP: 129/64(82) {66/33(45) - 142/72(94)} mmHg
   RR: 27 (20 - 34) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  5,610 mL
                                                                  1,291 mL
   PO:
           TF:
   IVF:
                                                                  2,602 mL
                                                                    427 mL
   Blood products:
                                                                    979 mL
                                                                    339 mL
   Total out:
                                                                  2,435 mL
                                                                    600 mL
   Urine:
                                                                  2,005 mL
                                                                    600 mL
   NG:
                                                                    430 mL
   Stool:
   Drains:
   Balance:
                                                                  3,175 mL
                                                                    691 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 32
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 91%
   ABG: 7.45/38/68/25/2
   Ve: 18.7 L/min
   PaO2 / FiO2: 85
   Physical Examination
   Gen: sedated, unresponsive
   Pulm: diffuse rhonchi
   CV: RRR no MRG
   Abd: distended, decreased BS
   Ext: anasarcic
   Tubrd/lines: grossly bloody foley drainage
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   23 K/uL
   10.0 g/dL
   158 mg/dL
   2.0 mg/dL
   25 mEq/L
   4.9 mEq/L
   125 mg/dL
   104 mEq/L
   140 mEq/L
   27.7 %
   1.4 K/uL
        [image002.jpg]
                             [**2126-6-24**]  07:24 AM
                             [**2126-6-24**]  10:43 AM
                             [**2126-6-24**]  12:00 PM
                             [**2126-6-24**]  03:08 PM
                             [**2126-6-24**]  03:26 PM
                             [**2126-6-24**]  05:21 PM
                             [**2126-6-24**]  06:12 PM
                             [**2126-6-24**]  06:39 PM
                             [**2126-6-25**]  04:22 AM
                             [**2126-6-25**]  04:34 AM
   WBC
   1.4
   Hct
   21.3
   21.0
   27.7
   Plt
   20
   20
   23
   Cr
   1.8
   2.0
   TropT
   1.47
   1.64
   2.07
   TCO2
   29
   28
   28
   29
   30
   27
   Glucose
   166
   158
   Other labs: PT / PTT / INR:12.5/32.9/1.1, CK / CKMB /
   Troponin-T:122/13/2.07, ALT / AST:80/112, Alk Phos / T Bili:178/4.5,
   Amylase / Lipase:383/10, Differential-Neuts:89.0 %, Band:3.0 %,
   Lymph:6.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:470 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.6 g/dL, LDH:628 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 DIARRHEA
 LIVER FUNCTION ABNORMALITIES
 HYPOXEMIA
   65M w MDS s/p SCT ([**4-/2126**]), CAD, initially admitted for diarrhea,
   transferred to the [**Hospital Unit Name 4**] for hypoxia, now s/p intubation.
   # Respiratory failure:  Improved with pressure control settings, ABGs
   stable.  Will tolerate PO2 in 60s. CXR this am shows increased
   congestion.  Likely [**2-4**] fluid overload and viral infection w
   Sternotrophomonas xanthomonas [**6-20**]. Parainfluenza Type 3 in nasal swab
   ([**6-18**]). Adenoviremia. [**Month (only) 8**] also have worsened hypoxia from pulm edema vs
   GVHDz in the lung. [**6-18**] stopped atovaquone and changed to clindamycin,
   and changed voriconazole back to micafungin. S/p intubation [**6-20**].
   Clindamycin ([**Date range (1) 7235**]).  Pt continues to be volume overloaded, cardiac
   status stabilized, plan to restart diuresis.
   - vancomycin, cefepime, cipro ([**6-18**]- )
   - acyclovir
   - cidovir ([**6-21**] - ) for adenovirus
   - miconazole for fungal coverage
   - oseltamivir for parainfluenza
   - continue mechanical ventilation, will pull ETT tube back 1 cm
   - lasix gtt re-started
   - f/u pending studies/cxs sensitivities
   - awaiting ID recs
   - consider paralytics if needed
   # Caridac ischemia/Afib with RVR: AM of [**6-24**] elevations, also
   o/n with episode requiring. Troponins peaking, RV hypokinesis. Concern
   for CAD vs vasospasm due to pressors. Is preload dependent. Lasix dc
   o/n in response to hypotension, will plan to restart today for volume
   overload.  Appreciate cardiology input.
   - amiodarone drip for rhythm control in the context of recent afib and
   hypotension
   - repeat echo today per cardiac recs
   - propofol weaned
   - consider ASA, however, plts low
   - will hold off on cath due to inability to anticoagulate
   - low dose bblocker held for hypotension
   - pt currently not requiring pressors, will use dopamine if needed
   - if presistant hypotension may need aortic balloon pump
   -central O2 sats
   # Hypotension: Weaned off pressure support.  Lasix restarted for fluid
   overload.
   - transfuse if needed
   -place central line for additional access
   # Bloody diarrhea: Has had extensive prior work-up including
   sigmoidoscopy [**5-11**] with path being c/w GVHD. Stool volumes have varied
   with how much steroids and other immunosuppresion pt has received. s/p
   inflixumab on [**6-13**]. Symptomatically better.
   - GI following. Patient currently not stable enough for sigmoidoscopy.
   - continue current immunosuppresion with methylprednisolone,
   budesonide, cyclosporine, and cellcept
   - monitor lytes
   - start bowel meds, since no BMs
   -follow crit
   # Hypernatremia: likely from NS resuscitation and high Na in TPN. Now
   resolved
   - monitor [**Hospital1 **] lytes
   # Acute Renal Failure: Most likely secondary to cidovir dose. Urine
   output adequate however he continues to have bright red urine foley
   output.  Lytes were more consitent with prerenal, but likely also has
   instrinsic renal damage from medicaiton.
   - renal following
   - [**Hospital1 **] lytes
   - renally dose meds
   - try to avoid further nephrotoxins
   # Acute Anemia: Close to prior baseline.
   - pm HCT
   # Elevated LFTs: Stable. Differential diagnosis includes GVHD of liver
   vs. drug effect, cholestasis [**2-4**] prolonged TPN requirement. MRCP
   limited by pt movement but did demonstrate dilation of extrahepatic
   duct without any stones. LFTs downtrending.
   - Continue to monitor daily.
   .
   # Rash: [**2-4**] GVHD. Plan as above. Monitor FS with HISS while on high
   dose steroids.
   # MDS s/p BMT: cured on repeat bone biopsy
   - Continue Cyclosporine (trough today [**6-25**]), Ursodiol, Acyclovir,
   micafungin, cellcept, methylprednisolone, budesonide, atovaquone
   - BMT team recommendations
   - monitor neutrophil count
   - monitor cyclosporine level
   #Bandemia: fever curve trending up, concern for infection vs bone
   marrow recovery.  Will continue to follow and CIS.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2126-6-24**] 06:00 PM 77.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   22 Gauge - [**2126-6-24**] 01:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-06-25 09:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Increased oxygen requirement.
   No further tachycardic dysrhythmia now on amioderone drip.
   Received total 3 units PRBc yesterday.
   Foley output more bloody.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2126-6-23**] 08:00 AM
   Vancomycin - [**2126-6-23**] 08:11 AM
   Ciprofloxacin - [**2126-6-24**] 06:00 PM
   Micafungin - [**2126-6-25**] 04:07 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Amiodarone - 0.5 mg/min
   Fentanyl - 225 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2126-6-25**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-6-25**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 109 (94 - 150) bpm
   BP: 119/69(84) {72/33(46) - 142/72(94)} mmHg
   RR: 30 (20 - 34) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  5,610 mL
                                                                  1,746 mL
   PO:
           TF:
   IVF:
                                                                  2,602 mL
                                                                    640 mL
   Blood products:
                                                                    979 mL
                                                                    339 mL
   Total out:
                                                                  2,435 mL
                                                                    617 mL
   Urine:
                                                                  2,005 mL
                                                                    617 mL
   NG:
                                                                    430 mL
   Stool:
   Drains:
   Balance:
                                                                  3,175 mL
                                                                  1,129 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 32
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 91%
   ABG: 7.45/38/68/25/2
   Ve: 19.4 L/min
   PaO2 / FiO2: 68
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   No(t) Tender: , Obese, Firm abd
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.0 g/dL
   23 K/uL
   158 mg/dL
   2.0 mg/dL
   25 mEq/L
   4.9 mEq/L
   125 mg/dL
   104 mEq/L
   140 mEq/L
   27.7 %
   3.0 K/uL
        [image002.jpg]
                             [**2126-6-24**]  07:24 AM
                             [**2126-6-24**]  10:43 AM
                             [**2126-6-24**]  12:00 PM
                             [**2126-6-24**]  03:08 PM
                             [**2126-6-24**]  03:26 PM
                             [**2126-6-24**]  05:21 PM
                             [**2126-6-24**]  06:12 PM
                             [**2126-6-24**]  06:39 PM
                             [**2126-6-25**]  04:22 AM
                             [**2126-6-25**]  04:34 AM
   WBC
   1.4
   3.0
   Hct
   21.3
   21.0
   27.7
   Plt
   20
   20
   23
   Cr
   1.8
   2.0
   TropT
   1.47
   1.64
   2.07
   TCO2
   29
   28
   28
   29
   30
   27
   Glucose
   166
   158
   Other labs: PT / PTT / INR:12.5/32.9/1.1, CK / CKMB /
   Troponin-T:122/13/2.07, ALT / AST:80/112, Alk Phos / T Bili:178/4.5,
   Amylase / Lipase:383/10, Differential-Neuts:77.0 %, Band:19.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:470 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.6 g/dL, LDH:628 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   65M s/p nonablative matched unrelated donor SCT for MDS, CAD, now with
   pneumonia and ARDS.
   CAD -- evolving acute MI, RV distribution.  Known underlying CAD.
   Cardiology recommends anticoagulation, ASA and possible cardiac cath
   --> however, not candidate for anticoabulation or ASA (high risk for
   bleed).  Not candidate for cardiac cath (infection).  Plan optimize
   hemodynamics (minimize hypotension).  Continue statin.  Attempt trial
   of b-blocker if tolerates hemodynamically.  Consider repeat cardiac
   echo.
   RESPIRATORY FAILURE -- persistent.  Attributed to infection
   (parainfluenza, adenovirsu).  At risk for ARDS, but also markedly
   positive fluid balance (may be component of left heart failure).
   Unclear whether component of GVHD.  Continue mechanical ventilation -->
   optimize PEEP, hope to decrease FiO2 < 60% antimicrobials.  Monitor
   ABG, maintain pH 7.35-7.40, pO2 >60 mmHg SaO2 > 90%.  Desire to
   maintain net negative fluid balance, if possible.  Optimize sedation to
   minimize dysynchrony.
   HYPOTENSION -- resolved.  Attributed to sepsis, intravascular
   depletion.  Currently stable, but monitor closely.
   PERICARDIAL EFFUSION -- consider repeat echo to assess size of
   pericardial effusion.
   PNEUMONIA -- Parainfluenza, and now possibly Stenotrophomonas -->
   Cefopime, Cipro.
   SEPSIS -- Cefepime, Mycofungin, Ciprofloxicin, Cidofovir.
   RENAL FAILURE -- evolving oliguria, concern for medication related and
   hemodynamic (hypotension) --> ATN (muddy brown casts by microscopy).
   Consider resuming lasix infusion.  Renal US unrevealing for
   obstruction.  Renal consultation in progresss.  Uremia.
   HEMATURIA -- foley trauma, thrombocytopenia and uremia.
   HYPERNATREMIA -- resolved.  Monitor Na.
   FLUIDS -- net volume overloaded.  Desire net negative fluid
   ANEMIA -- bone marrow suppression and active bleeding.  Uremia may be
   contributing to platelet dysfunction.
   THROMBOCYTOPENIA -- continue to transfuse if <10 or active bleeding.
   Elevated LFTs: Stable. -- attributed to GVDH vs. drug effect.   Also
   consider cholestasis [**2-4**] prolonged TPN requirement.
   RASH -- [**2-4**] GVHD.  Monitor FS with HISS tapering steroids. Cellcept,
   cyclosporin.
   MDS s/p BMT --  Continue Cyclosporine, Ursodiol, Acyclovir, micafungin,
   cellcept, methylprednisolone, budesonide.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2126-6-24**] 06:00 PM 77.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   22 Gauge - [**2126-6-24**] 01:06 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Procedure Note:
   New left IJ central line placed under sterile conditions using
   ultrasound guidance.  No complications.  CXR without new findings.
   ------ Protected Section Addendum Entered By:[**Name (NI) 275**] [**Last Name (NamePattern1) 276**], MD
   on:[**2126-6-25**] 18:03 ------
   MICU Attending (Addendum):
   Overall, progressive clinical decline over the course of the past 12
   hrs.  Persistent respiratory failure, now with increasing FiO2
   requirements (currently 100% FiO2) requiring increasing PEEP, acute
   renal failure approaching anuria, recurrent atrial fibrillation on
   Amioderone, persistent anemia (blood loss)
 now with evidence for
   gross hematuria and coffer-grounds via NGT (possible DIC), on
   background of opportunistic lung infections, ARDS, recent acute MI,
   bone marrow failure.  Additional central iv access established,
   diuretics administered (renal team informed for possible need for
   dialysis/CVVH).  Family updated.  Guarded condition.  Plans as outlined
   per Resident notes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 275**] [**Last Name (NamePattern1) 276**], MD
   on:[**2126-6-25**] 18:13 ------

2126-06-26 06:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2126-6-25**] 09:43 AM
   from aline and from CVL
   - GNR in blood cx [**6-26**] am: started on cefepime
 EKG - At [**2126-6-25**] 11:30 AM
 MULTI LUMEN - START [**2126-6-25**] 04:55 PM
 DIALYSIS CATHETER - START [**2126-6-25**] 07:42 PM
   -rec'd one unit platelets in anticipation of central line placement
   -central line placed in L IJ
   -noted to be in afib with rvr during central line placement. given
   metoprolol 2.5 mg IV X 1 without significant improvement in rate. given
   additional metoprolol 5 mg IV X 1 and increased amiodarone gtt with
   drop in sbp to high 60s, maintained pulse. Restarted neo gtt and given
   3 units of pRBC.
   -coffee ground NG drainage noted, protonix drip initiated and
   transfused 3 units pRBC, 2 bags plts as above
   -femoral groin cath placed, CVVHD initiated.
   -troponin now downtrending
   -restarted IV vancomycin per BMT recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2126-6-23**] 08:00 AM
   Vancomycin - [**2126-6-25**] 11:00 PM
   Micafungin - [**2126-6-26**] 04:00 AM
   Ciprofloxacin - [**2126-6-26**] 05:59 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Amiodarone - 0.5 mg/min
   Fentanyl - 225 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2126-6-25**] 07:00 AM
   Furosemide (Lasix) - [**2126-6-25**] 02:23 PM
   Pantoprazole (Protonix) - [**2126-6-25**] 06:00 PM
   Metoprolol - [**2126-6-25**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-6-26**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 35.3
C (95.6
   HR: 64 (64 - 127) bpm
   BP: 104/52(69) {86/47(63) - 125/73(87)} mmHg
   RR: 6 (6 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,834 mL
                                                                  1,459 mL
   PO:
             TF:
   IVF:
                                                                  2,235 mL
                                                                    991 mL
   Blood products:
                                                                  1,633 mL
   Total out:
                                                                  1,772 mL
                                                                  2,333 mL
   Urine:
                                                                    872 mL
                                                                    250 mL
   NG:
                                                                    900 mL
                                                                    700 mL
   Stool:
   Drains:
   Balance:
                                                                  4,062 mL
                                                                   -874 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 51.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.39/38/65/24/-1
   Ve: 16.2 L/min
   PaO2 / FiO2: 72
   Physical Examination
   General: intubated and sedated, generalized anasarca
   HEENT: oropharync clear, eyes not completely shut due to swelling,
   Central line in place with no sign of infection.
   CV: RRR S1 S2, no murmurs, distant heart sounds
   Resp: coarse breath sounds bilaterally with decreased breath sounds in
   lower left lung field anteriorly.
   Abd: soft, non-distended; 1 possible bowel sound heard over 1 minute.
   Extremities:  anasarca, warm to touch, lines in place with no signs of
   infection.
   Derm: multiple petechiae over upper extremities, no change.  Erythema
   of skin around upper torso previously noted during this admission,
   non-changing.
   Labs / Radiology
   59 K/uL
   10.1g/dL
   149 mg/dL
   2.3 mg/dL
   22 mEq/L
   5.3 mEq/L
   118 mg/dL
   102 mEq/L
   135 mEq/L
   28.5 %
   7.0 K/uL
        [image002.jpg]
                             [**2126-6-25**]  11:49 AM
                             [**2126-6-25**]  05:03 PM
                             [**2126-6-25**]  05:57 PM
                             [**2126-6-25**]  06:00 PM
                             [**2126-6-25**]  06:12 PM
                             [**2126-6-25**]  09:48 PM
                             [**2126-6-25**]  10:03 PM
                             [**2126-6-26**]  12:14 AM
                             [**2126-6-26**]  12:34 AM
                             [**2126-6-26**]  06:00 AM
   WBC
   2.9
   Hct
   24.0
   28.0
   27.3
   Plt
   35
   34
   68
   Cr
   2.5
   2.6
   TropT
   1.80
   TCO2
   26
   28
   25
   25
   24
   Glucose
   161
   169
   161
   153
   Other labs: PT / PTT / INR:15.2/39.5/1.3, CK / CKMB /
   Troponin-T:89/8/1.80, ALT / AST:80/112, Alk Phos / T Bili:178/4.5,
   Amylase / Lipase:383/10, Differential-Neuts:77.0 %, Band:19.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:2397 ng/mL, Fibrinogen:512
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:1.6 g/dL, LDH:628 IU/L, Ca++:8.0
   mg/dL, Mg++:3.1 mg/dL, PO4:5.8 mg/dL, free Ca 1.06, cyclosporine level
   252
   Microbiology:  GNR in aerobic bottle from art line
   CXR from 5pm on [**6-25**]: L IJ in position, no interval change in lung
   fields with bilateral
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 DIARRHEA
 LIVER FUNCTION ABNORMALITIES
 HYPOXEMIA
   65M w MDS s/p SCT ([**4-/2126**]), CAD, initially admitted for diarrhea,
   transferred to the [**Hospital Unit Name 4**] for hypoxia, now s/p intubation.
   # Respiratory failure:  Improved with pressure control settings, ABGs
   stable.  Will tolerate PO2 in 60s. CXR this am shows increased
   congestion.  Likely [**2-4**] fluid overload and viral infection w
   Sternotrophomonas xanthomonas [**6-20**]. Parainfluenza Type 3 in nasal swab
   ([**6-18**]). Adenoviremia. [**Month (only) 8**] also have worsened hypoxia from pulm edema vs
   GVHDz in the lung. [**6-18**] stopped atovaquone and changed to clindamycin,
   and changed voriconazole back to micafungin. S/p intubation [**6-20**].
   Clindamycin ([**Date range (1) 7235**]).  Pt continues to be volume overloaded, Afib
   with RVR now sinus. Adverse rxn to cidovir (ARF)
   - vancomycin, cipro ([**6-18**]- )
   - Cefepime for GNR in Bcx from art line start [**6-26**]
   - acyclovir
   - miconazole for fungal coverage
   - continue mechanical ventilation, on Pressure control, reduce FiO2 as
   tolerated
   - will f/u studies
   # GNR bacteremia: possible sepsis with hypothermia, hypotension,
   bandemia. Also with very decreased or absent BS.
   - started on cefepime on [**6-26**]
   - BCx in am
   - lactate level
   - on pressors
   - possible etiology: urinary catheter (resend UA and culture),
   acalculous cholecystitis (RUQ ultrasound to evaluate), line infection
   - If U/S shows CBD dilitation will evaluate ERCP vs IR
   # Caridac ischemia/Afib with RVR: AM of [**6-24**] elevations, also
   o/n with episode requiring. Troponins peaking, RV hypokinesis. Concern
   for CAD vs vasospasm due to pressors. Is preload dependent.  Will
   continue to seek advice from cardio.
   - amiodarone drip for rhythm control in the context of recent afib and
   hypotension
   - repeat echo considered
   - considered ASA, however, plts low
   - Hold on cath due to inability to anticoagulate [**2-4**] low plt
   # Hypotension: Weaned off pressure support.  Received lasix, now on
   CVVHD
   - transfuse if needed for platelets <20 (consult heme for further
   parameters)
   -central line placed for additional access
   - pt currently on neo drip, will decrease as much as BP tolerates it.
   # Bloody diarrhea: Has had extensive prior work-up including
   sigmoidoscopy [**5-11**] with path being c/w GVHD. Stool volumes have varied
   with how much steroids and other immunosuppresion pt has received. s/p
   inflixumab on [**6-13**]. Symptomatically better.  Had episode of coffee
   ground emesis overnight on [**6-25**]
   - protonix drip for coffee ground emesis
   - GI following prior to [**Hospital Unit Name 4**] -  Not stable for sigmoidoscopy.
   - continue current immunosuppresion with methylprednisolone,
   budesonide, cyclosporine, and cellcept
   - monitor lytes
   - continue bowel meds
   - follow crit
   # Acute Renal Failure: Most likely secondary to cidovir dose. Urine
   output adequate however he continues to have bright red urine foley
   output.  Lytes were more consitent with prerenal, but likely also has
   instrinsic renal damage from medicaiton. Started on CVVHD
   - renal following, recommend redosing cipro and vanc.
   - [**Hospital1 **] lytes
   - renally dose meds
   - avoid further nephrotoxins
   # Acute Anemia: Close to prior baseline.
   - pm HCT
   # Elevated LFTs: Remain elevated but stable. Differential diagnosis
   includes GVHD of liver vs. drug effect, cholestasis [**2-4**] prolonged TPN
   requirement. MRCP limited by pt movement but did demonstrate dilation
   of extrahepatic duct without any stones. LFTs downtrending.
   - Continue to monitor daily.
   - RUQ U/S
   .
   # Rash: [**2-4**] GVHD. Plan as above. Monitor FS with HISS while on high
   dose steroids. Stable
   # MDS s/p BMT: cured on repeat bone biopsy
   - Continue Cyclosporine (trough today [**6-25**]), Ursodiol, Acyclovir,
   micafungin, cellcept, methylprednisolone, budesonide, atovaquone
   - BMT team recommendations
   - monitor neutrophil count
   - monitor cyclosporine level
   #Bandemia: fever curve trending up, concern for infection vs bone
   marrow recovery.  Will continue to follow and CIS.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2126-6-25**] 06:03 PM 77.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   22 Gauge - [**2126-6-24**] 01:06 AM
   Multi Lumen - [**2126-6-25**] 04:55 PM
   Dialysis Catheter - [**2126-6-25**] 07:42 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: remains intubated

2126-06-27 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2126-6-26**] 10:00 AM
   RUQ
   -concern for cholecystitis by US, HIDA recommended by rads
   -IR placed percutaneous cholecystostomy with pigtail--note pigtail
   catheter had malfunction with string and did not coil inside.  Catheter
   secured to skin with suture.
   -Bile Cx sent
   -CVVHD stopped mid day due to machine malfunction, restarted approx
   2230.  Rate increased since CVVHD stopped for so long during day.
   - 0150, GI bleed noted by nurse, grossly bloody stool. plt/hct drawn
   and stable.
   -platelets given
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2126-6-26**] 05:59 AM
   Vancomycin - [**2126-6-26**] 09:52 AM
   Cefipime - [**2126-6-26**] 10:49 AM
   Micafungin - [**2126-6-27**] 04:15 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-6-27**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.5
C (95.9
   HR: 76 (68 - 96) bpm
   BP: 148/66(96) {90/46(61) - 192/82(125)} mmHg
   RR: 32 (5 - 32) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
          Total In:
                                                                  5,048 mL
                                                                  2,110 mL
   PO:
          TF:
   IVF:
                                                                  3,192 mL
                                                                  1,322 mL
   Blood products:
   253 mL
   Total out:
                                                                  6,218 mL
                                                                  2,276 mL
   Urine:
                                                                    700 mL
   NG:
                                                                  1,050 mL
                                                                    200 mL
   Stool:
   Drains:
                                                                    200 mL
                                                                     95 mL
   Balance:
                                                                 -1,170 mL
                                                                   -163 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   Vt (Spontaneous): 494 (485 - 494) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 91%
   ABG: 7.35/39/63/21/-3
   Ve: 16 L/min
   PaO2 / FiO2: 90
   Physical Examination
   General: pt sedated, intubated, on cvvhd, anasarca
   HEENT: ETT secure, mucous membranes dry, eyes taped shut, edematous, L
   IJ in place with no signs of infection at insertion
   Lungs: coarse breath sounds bilaterally, decreased breath sounds
   anterior lower left lung field
   CV: RRR, distant heart sounds
   Abd: soft, non-distended, no bowel sounds appreciated
   Ext: extremities are warm to touch (under bear hugger), 4+ pitting in
   all 4 limbs. No pulses appreciated [**2-4**] edema.
   Skin: skin breakdown noted on right wrist where tape to secure tape
   present, petechial-like rash on bilateral upper extremities not
   spreading or evolving.  Upper torso erythematous and warm, no interval
   change.
   Neuro: pt remains sedated, exam deferred.
   Labs / Radiology
   78 K/uL
   9.2 g/dL
   201 mg/dL
   1.8 mg/dL
   21 mEq/L
   4.8 mEq/L
   89 mg/dL
   101 mEq/L
   131 mEq/L
   26.2 %
   5.9 K/uL
        [image002.jpg]
                             [**2126-6-26**]  12:34 PM
                             [**2126-6-26**]  02:56 PM
                             [**2126-6-26**]  03:28 PM
                             [**2126-6-26**]  05:45 PM
                             [**2126-6-26**]  06:30 PM
                             [**2126-6-27**]  12:14 AM
                             [**2126-6-27**]  01:02 AM
                             [**2126-6-27**]  03:12 AM
                             [**2126-6-27**]  05:50 AM
                             [**2126-6-27**]  06:03 AM
   WBC
   5.2
   5.9
   Hct
   25.6
   26.0
   26.4
   26.1
   26.2
   Plt
   37
   37
   58
   39
   78
   Cr
   2.1
   1.8
   TCO2
   24
   23
   22
   21
   22
   Glucose
   142
   207
   201
   Other labs: PT / PTT / INR:11.7/33.3/1.0, CK / CKMB /
   Troponin-T:83/8/1.91, ALT / AST:98/162, Alk Phos / T Bili:184/5.5,
   Amylase / Lipase:383/10, Differential-Neuts:94.7 %, Band:0.0 %,
   Lymph:1.8 %, Mono:3.5 %, Eos:0.0 %, D-dimer:2397 ng/mL, Fibrinogen:512
   mg/dL, Lactic Acid:2.0 mmol/L, Albumin:1.6 g/dL, LDH:736 IU/L, Ca++:7.3
   mg/dL, Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Micro: BCx: GNR, not identified
   RUQ U/S: CBD dilated to 1.6 cm with sludge in gallbladder and edematous
   gallblader wall.
   Assessment and Plan
 CHOLECYSTITIS, ACALCULOUS
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 SHOCK, SEPTIC
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 DIARRHEA
 LIVER FUNCTION ABNORMALITIES
 HYPOXEMIA
   65M w MDS s/p SCT ([**4-/2126**]), CAD, initially admitted for diarrhea,
   transferred to the [**Hospital Unit Name 4**] for hypoxia, now s/p intubation.
   # Respiratory failure:  On pressure control settings, ABGs stable, FIO2
   decreased to 70 yesterday.  Will tolerate PO2 in 60s.  Likely [**2-4**] fluid
   overload and viral infection w Sternotrophomonas xanthomonas [**6-20**].
   Parainfluenza Type 3 in nasal swab ([**6-18**]). Adenoviremia. [**Month (only) 8**] also have
   worsened hypoxia from pulm edema vs GVHDz in the lung. S/p intubation
   [**6-20**]. Clindamycin ([**Date range (1) 7235**]). Adverse rxn to cidovir (ARF).
   - vancomycin, cipro ([**6-18**]- )
   - Cefepime for GNR in Bcx from art line start [**6-26**]
   - miconazole for fungal coverage
   - continue mechanical ventilation, on Pressure control, reduce FiO2 as
   tolerated goal 60% or less.
   - will f/u studies
   # GNR bacteremia: possible sepsis with hypothermia, hypotension,
   bandemia. Also with very decreased or absent BS.  Blood cxs redrawn
   today.
   - started on cefepime on [**6-26**]. Pt s/p U/S percutaneous cholecystostomy
   with good output.
   - Surveillance cultures this am, follow up
   - lactate level
   - on pressors
   - possible etiology: urinary catheter (resend UA and culture),
   acalculous cholecystitis (RUQ ultrasound to evaluate), line infection
   - ID recommends re-siting all lines, will discuss with team
   - f/u blood cxs
   # Hypotension: On phenylephrine.  On CVVHD.
   - transfuse if needed for platelets <20 (consult heme for further
   parameters)
   - central line access available
   - decrease pressor requirement as tolerated
   # Dilated CBD: 1.6 cm by U/S, s/p percutaneous cholecystostomy by IR
   [**6-26**], no complications.  Reluctant to do ERCP at this time given
   bleeding risk with sphincterotomy.
   - monitor pigtail output and make sure secure
   - f/u bile Cx
   - discuss with IR and billiary team if there is need for ERCP
   - f/u afternoon LFTs
   # Bloody diarrhea/coffee ground NG aspirate: Has had extensive prior
   work-up including sigmoidoscopy [**5-11**] with path being c/w GVHD. S/p
   inflixumab on [**6-13**]. Coffee grounds NG aspirate [**6-26**], grossly bloody
   diarrhea [**6-27**].
   - continue protonix drip
   - GI following since admission, also possibility for ERCP if IR
   drainage unsuccessful.
   - continue current immunosuppresion with methylprednisolone,
   budesonide, cyclosporine, and cellcept
   - monitor lytes
   - continue bowel meds
   - follow crit/plt q6 hour
   - maintain platelets >50
   # Caridac ischemia/Afib with RVR: AM of [**6-24**] elevations.
   Troponins peaked [**3-25**]. RV hypokinesis. Concern for CAD vs vasospasm due
   to pressors. Is preload dependent.  Will continue to seek advice from
   cardio.
   - continue amiodarone drip for rhythm control in the context of recent
   afib and hypotension
   - discuss with cardiology
   - platelets remain low, will not give ASA
   - Hold on cath due to inability to anticoagulate [**2-4**] low plt
   # Acute Renal Failure: likely secondary to cidovir dose. Foley
   irrigated overnight. Started on CVVHD.
   - renal following
   - [**Hospital1 **] lytes
   - renally dose meds
   - avoid further nephrotoxins
   # Acute Anemia: Close to prior baseline.
   - pm HCT
   # Elevated LFTs: Remain elevated but stable. Differential diagnosis
   includes GVHD of liver vs. drug effect, cholestasis [**2-4**] prolonged TPN
   requirement. MRCP limited by pt movement but did demonstrate dilation
   of extrahepatic duct without any stones. LFTs downtrending.
   - Continue to monitor daily.
   - RUQ U/S
   .
   # Rash: [**2-4**] GVHD. Plan as above. Monitor FS with HISS while on high
   dose steroids. Stable
   # MDS s/p BMT: cured on repeat bone biopsy
   - Continue Cyclosporine (trough today [**6-25**]), Ursodiol, Acyclovir,
   micafungin, cellcept, methylprednisolone, budesonide, atovaquone
   - BMT team recommendations
   - monitor neutrophil count
   - cyclosporine level this AM
   #Bandemia: fever curve trending up, concern for infection vs bone
   marrow recovery.  Will continue to follow and CIS.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2126-6-26**] 09:04 AM 77.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   Multi Lumen - [**2126-6-25**] 04:55 PM
   Dialysis Catheter - [**2126-6-25**] 07:42 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-06-27 09:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Mode switched to PCV.
   Percutaneous GB drainage performed by IR for acalculous cholecystitis.
   Experienced bloody BM last PM.
   Remains on CVVH.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2126-6-26**] 10:49 AM
   Micafungin - [**2126-6-27**] 04:15 AM
   Vancomycin - [**2126-6-27**] 07:00 AM
   Ciprofloxacin - [**2126-6-27**] 07:16 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, Melena
   Genitourinary: No(t) Dysuria, Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2126-6-27**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.4
C (95.8
   HR: 79 (68 - 96) bpm
   BP: 104/48(66) {90/46(61) - 192/82(125)} mmHg
   RR: 0 (0 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
          Total In:
                                                                  5,048 mL
                                                                  3,022 mL
   PO:
          TF:
   IVF:
                                                                  3,192 mL
                                                                  2,087 mL
   Blood products:
   253 mL
   Total out:
                                                                  6,218 mL
                                                                  3,352 mL
   Urine:
                                                                    700 mL
                                                                    350 mL
   NG:
                                                                  1,050 mL
                                                                    200 mL
   Stool:
   Drains:
                                                                    200 mL
                                                                     95 mL
   Balance:
                                                                 -1,170 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   Vt (Spontaneous): 494 (485 - 494) mL
   RR (Set): 32
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 93%
   ABG: 7.35/39/63/21/-3
   Ve: 16.3 L/min
   PaO2 / FiO2: 90
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: peticheal rash over lower arms , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   78 K/uL
   201 mg/dL
   1.8 mg/dL
   21 mEq/L
   4.8 mEq/L
   89 mg/dL
   101 mEq/L
   131 mEq/L
   26.2 %
   5.6 K/uL
        [image002.jpg]
                             [**2126-6-26**]  12:34 PM
                             [**2126-6-26**]  02:56 PM
                             [**2126-6-26**]  03:28 PM
                             [**2126-6-26**]  05:45 PM
                             [**2126-6-26**]  06:30 PM
                             [**2126-6-27**]  12:14 AM
                             [**2126-6-27**]  01:02 AM
                             [**2126-6-27**]  03:12 AM
                             [**2126-6-27**]  05:50 AM
                             [**2126-6-27**]  06:03 AM
   WBC
   5.2
   5.9
   5.6
   Hct
   25.6
   26.0
   26.4
   26.1
   26.2
   Plt
   37
   37
   58
   39
   78
   Cr
   2.1
   1.8
   TCO2
   24
   23
   22
   21
   22
   Glucose
   142
   207
   201
   Other labs: PT / PTT / INR:11.7/33.3/1.0, CK / CKMB /
   Troponin-T:83/8/1.91, ALT / AST:98/162, Alk Phos / T Bili:184/5.5,
   Amylase / Lipase:383/10, Differential-Neuts:94.7 %, Band:0.0 %,
   Lymph:1.8 %, Mono:3.5 %, Eos:0.0 %, D-dimer:2397 ng/mL, Fibrinogen:512
   mg/dL, Lactic Acid:2.0 mmol/L, Albumin:1.6 g/dL, LDH:736 IU/L, Ca++:7.7
   mg/dL, Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   65M s/p nonablative matched unrelated donor SCT for MDS, complicated by
   GVHD now with pneumonia and ARDS, sepsis, evolving multisystem organ
   failure.
   RESPIRATORY FAILURE -- persistent.  Attributed to infection
   (parainfluenza, adenovirus).  At risk for ARDS, but also markedly
   positive fluid balance (may be component of left heart failure).
   Unclear whether component of GVHD.  Continue mechanical ventilation -->
   optimize PEEP, hope to decrease FiO2 < 60% antimicrobials.  Monitor
   ABG, maintain pH 7.35-7.40, pO2 >60 mmHg SaO2 > 90%.  Desire to
   maintain net negative fluid balance, if possible.  Optimize sedation to
   minimize dysynchrony.
   HYPOTENSION -- Recurrent.  Attributable to sepsis, intravascular
   depletion.  Currently stable, but monitor closely.
   ACALCULOUS CHOLECYSTITIS -- s/p percutaneous drainage last PM.
   PERICARDIAL EFFUSION -- consider repeat echo to assess size of
   pericardial effusion.  No evidence for tamponade.
   CAD -- recent acute MI, RV distribution.  Known underlying CAD.
   Cardiology recommends anticoagulation, ASA and possible cardiac cath
   --> however, not candidate for anticoabulation or ASA (high risk for
   bleed).  Not candidate for cardiac cath (infection).  Continue to
   optimize hemodynamics (minimize hypotension).  Continue statin.
   Attempt trial of b-blocker if tolerates hemodynamically.  Consider
   repeat cardiac echo.
   PNEUMONIA -- Parainfluenza, and now possibly Stenotrophomonas -->
   Cefopime, Cipro.
   SEPSIS -- Antimicrobial coverage expanded.  Likely attributable to GNR
   bacteremia -->  Vanco, Cefepime, Mycofungin, Ciprofloxicin, Cidofovir.
   At risk for fungal superinfection.
   BACTEREMIA -- GNR, concern for either pulmonary source, GI source (GI
   tract, hepatobiliary source), urinary source.  Abd US suggested finding
   consistent with acalculous cholecystitis.  Monitor serial LFTs, check
   lactic acid, consider abd CT (to assess for bowel ischemia).
   GI BLEED -- underlying GVHD, but now concern for gastritis or PUD. GI
   bleed in context of thrombocytopenia.  GI to consider EGD.
   RENAL FAILURE -- developed anuria, concern for medication related and
   hemodynamic (hypotension) --> ATN (muddy brown casts by microscopy).
   Now on renal replacement therapy (CVVH).
   HEMATURIA -- foley trauma, thrombocytopenia and uremia.
   FLUIDS -- net volume overloaded.  Desire net negative fluid balance
   (50-100 ml/hr)
   ANEMIA -- bone marrow suppression and active bleeding.  Uremia may be
   contributing to platelet dysfunction.  Now with contribution of GI
   bleed.
   THROMBOCYTOPENIA -- continue to transfuse if <10 or active bleeding.
   Now contribution of uremia --> platelet dysfunction.
   Elevated LFTs: Stable. -- attributed to GVDH vs. drug effect.   Also
   consider cholestasis [**2-4**] prolonged TPN requirement.
   RASH -- [**2-4**] GVHD.  Monitor FS with HISS tapering steroids. Cellcept,
   cyclosporin.
   NUTRITIONAL SUPPORT -- TPN.
   MDS s/p BMT --  Continue Cyclosporine, Ursodiol, Acyclovir, micafungin,
   cellcept, methylprednisolone, budesonide.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2126-6-26**] 09:04 AM 77.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   Multi Lumen - [**2126-6-25**] 04:55 PM
   Dialysis Catheter - [**2126-6-25**] 07:42 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2126-06-28 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -changed cipro to bactrim for suspiscion of strenotrophomonas
   bacteremia, increased folate to 5 mg daily as per oncology recs
   - Arterial line site changed
   - weaned off pressors
   - PEEP reduced to 10
   - given 1 unit pRBC for hct of 22.3 and 1 unit platelets for count of
   42.  Post transfusion labs did not improve and pt given 2 more units
   platelets and 2 units pRBC.  No further episodes of bloody emesis or
   melana but NGT cont to drain coffee ground emesis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2126-6-26**] 10:49 AM
   Vancomycin - [**2126-6-27**] 07:00 AM
   Ciprofloxacin - [**2126-6-27**] 07:16 AM
   Bactrim (SMX/TMP) - [**2126-6-28**] 12:00 AM
   Micafungin - [**2126-6-28**] 04:00 AM
   Meropenem - [**2126-6-28**] 06:08 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2126-6-27**] 02:02 PM
   Midazolam (Versed) - [**2126-6-27**] 02:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-6-28**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.2
C (95.4
   HR: 69 (62 - 89) bpm
   BP: 112/51(67) {101/47(64) - 175/74(105)} mmHg
   RR: 35 (0 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.6 kg (admission): 69 kg
          Total In:
                                                                  7,081 mL
                                                                  3,340 mL
   PO:
          TF:
   IVF:
                                                                  4,722 mL
                                                                  1,754 mL
   Blood products:
                                                                    526 mL
                                                                  1,027 mL
   Total out:
                                                                  7,812 mL
                                                                  6,265 mL
   Urine:
                                                                    650 mL
                                                                    550 mL
   NG:
                                                                    200 mL
                                                                    100 mL
   Stool:
   Drains:
                                                                    295 mL
                                                                    100 mL
   Balance:
                                                                   -731 mL
                                                                 -2,925 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   Vt (Spontaneous): 546 (546 - 595) mL
   RR (Set): 32
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, RR >35, Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: 7.36/37/69/20/-3
   Ve: 17.1 L/min
   PaO2 / FiO2: 99
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   51 K/uL
   7.8 g/dL
   168 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.5 mEq/L
   71 mg/dL
   99 mEq/L
   129 mEq/L
   23.0 %
   2.6 K/uL
        [image002.jpg]
                             [**2126-6-27**]  06:03 AM
                             [**2126-6-27**]  12:32 PM
                             [**2126-6-27**]  12:52 PM
                             [**2126-6-27**]  06:12 PM
                             [**2126-6-27**]  06:41 PM
                             [**2126-6-27**]  11:59 PM
                             [**2126-6-28**]  12:03 AM
                             [**2126-6-28**]  01:13 AM
                             [**2126-6-28**]  05:46 AM
                             [**2126-6-28**]  05:59 AM
   WBC
   2.6
   Hct
   25.4
   22.3
   21.6
   23.0
   Plt
   60
   42
   38
   51
   Cr
   2.0
   1.8
   1.6
   TCO2
   22
   21
   21
   22
   22
   Glucose
   174
   137
   173
   168
   Other labs: PT / PTT / INR:11.9/30.3/1.0, CK / CKMB /
   Troponin-T:83/8/1.91, ALT / AST:71/109, Alk Phos / T Bili:169/3.9,
   Amylase / Lipase:53/16, Differential-Neuts:94.7 %, Band:0.0 %,
   Lymph:1.8 %, Mono:3.5 %, Eos:0.0 %, D-dimer:2397 ng/mL, Fibrinogen:512
   mg/dL, Lactic Acid:2.0 mmol/L, Albumin:1.6 g/dL, LDH:658 IU/L, Ca++:7.8
   mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Adneovirus load [**Numeric Identifier 7315**]
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 CHOLECYSTITIS, ACALCULOUS
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 SHOCK, SEPTIC
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 DIARRHEA
 LIVER FUNCTION ABNORMALITIES
 HYPOXEMIA
   65M w MDS s/p SCT ([**4-/2126**]), CAD, initially admitted for diarrhea,
   transferred to the [**Hospital Unit Name 4**] for hypoxia, now s/p intubation.
   # Respiratory failure:  On pressure control, AM ABGs stable, will
   tolerate PO2 in 60s.  Likely [**2-4**] fluid overload and viral infection w
   Sternotrophomonas xanthomonas [**6-20**]. Parainfluenza Type 3 in nasal swab
   ([**6-18**]). Adenovirus load has decreased. [**Month (only) 8**] also have worsened hypoxia
   from pulm edema vs GVHDz in the lung. S/p intubation [**6-20**]. Clindamycin
   ([**Date range (1) 7235**]). Adverse rxn to cidovir (ARF).  It appears that his ETT
   tube needs to be advanced.
   - vancomycin ([**6-18**]- ).
   - Cefepime for GNR in Bcx from art line start [**6-26**]
   - miconazole for fungal coverage
   - will discuss further tx with cidofovir with ID
   - continue mechanical ventilation, on pressure control, reduce FiO2 as
   tolerated goal 60% or less.
   - will f/u studies
 Bcx, Ucx
   - repeat cxr to check positioning of ETT tube
   # GNR bacteremia: possible sepsis with hypothermia, hypotension,
   bandemia. Also with very decreased or absent BS.  Blood cxs redrawn
   today.  No longer requiring pressure support.  Lactate WNL.
   - started on cefepime on [**6-26**]. Pt s/p U/S percutaneous cholecystostomy
   with good output from pigtail.
   - Surveillance cultures this am, follow up
   - possible etiology: urinary catheter (resend UA and culture),
   acalculous cholecystitis (RUQ ultrasound [**6-26**]), line infection
   - ID recommends re-siting all lines, art line replaced, will discuss
   need to replace other lines if cxs remain positive.
   # Hypotension: Pressors weaned, pt holding pressures.  On CVVHD.
   - transfuse if needed for platelets <50 due to evidence of GI bleed
   - central line access available
   - standing type and screen
   # Dilated CBD: 1.6 cm by U/S, s/p percutaneous cholecystostomy by IR
   [**6-26**], no complications.  Reluctant to do ERCP at this time given
   bleeding risk with sphincterotomy and good drainage with pigtail
   catheters.
   - monitor pigtail output
   - f/u [**2-26**] bile culture-negative to date
   - discuss with IR and billiary team if there is need for ERCP
   - follow LFTs
   # Bloody diarrhea/coffee ground NG aspirate: Has had extensive prior
   work-up including sigmoidoscopy [**5-11**] with path being c/w GVHD. S/p
   inflixumab on [**6-13**]. Coffee grounds NG aspirate [**6-26**], grossly bloody
   diarrhea [**6-27**].  No further episodes of bleeding.  GI not recommending
   ERCP at this time
   - continue protonix drip, will decrease to minimize fluids
   - continue current immunosuppresion with methylprednisolone,
   budesonide, cyclosporine, and cellcept
   - monitor lytes
   - continue bowel meds
   - follow crit/plt q6 hour
   - maintain platelets >50
   # Caridac ischemia/Afib with RVR: AM of [**6-24**] elevations.
   Troponins peaked [**3-25**]. RV hypokinesis. Concern for CAD vs vasospasm due
   to pressors. Is preload dependent.  Will continue to seek advice from
   cardio.
   - continue amiodarone drip for rhythm control in the context of recent
   afib and hypotension
   - discuss with cardiology
   - platelets remain low, will not give ASA
   - Hold on cath due to inability to anticoagulate [**2-4**] low plt
   # Acute Renal Failure: likely secondary to cidovir dose. Foley
   irrigated overnight. Started on CVVHD.
   - renal following
   - [**Hospital1 **] lytes
   - renally dose meds
   - avoid further nephrotoxins
   # Acute Anemia: Close to prior baseline.
   - pm HCT
   # Elevated LFTs: Remain elevated but stable. Differential diagnosis
   includes GVHD of liver vs. drug effect, cholestasis [**2-4**] prolonged TPN
   requirement. MRCP limited by pt movement but did demonstrate dilation
   of extrahepatic duct without any stones.
   - Continue to monitor daily.
   - RUQ U/S
   .
   # Rash: [**2-4**] GVHD. Plan as above. Monitor FS with HISS while on high
   dose steroids. Stable
   .
   # MDS s/p BMT: cured on repeat bone biopsy
   - Continue Cyclosporine (trough today [**6-28**], redose tomorrow), Ursodiol,
   Acyclovir, micafungin, cellcept, methylprednisolone, budesonide,
   atovaquone
   - BMT team recommendations
   - monitor neutrophil count
   - cyclosporine tomorrow AM
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2126-6-27**] 09:01 AM 73 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   Multi Lumen - [**2126-6-25**] 04:55 PM
   Dialysis Catheter - [**2126-6-25**] 07:42 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-06-28 11:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2126-6-26**] 10:49 AM
   Ciprofloxacin - [**2126-6-27**] 07:16 AM
   Micafungin - [**2126-6-28**] 04:00 AM
   Meropenem - [**2126-6-28**] 06:08 AM
   Vancomycin - [**2126-6-28**] 08:36 AM
   Bactrim (SMX/TMP) - [**2126-6-28**] 09:40 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Amiodarone - 0.5 mg/min
   Fentanyl (Concentrate) - 350 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Fentanyl - [**2126-6-27**] 02:02 PM
   Midazolam (Versed) - [**2126-6-27**] 02:03 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-6-28**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.5
   HR: 78 (62 - 89) bpm
   BP: 121/55(73) {108/49(65) - 175/74(105)} mmHg
   RR: 18 (8 - 37) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.6 kg (admission): 69 kg
          Total In:
                                                                  7,080 mL
                                                                  5,070 mL
   PO:
          TF:
   IVF:
                                                                  4,722 mL
                                                                  2,975 mL
   Blood products:
                                                                    526 mL
                                                                  1,306 mL
   Total out:
                                                                  7,812 mL
                                                                  9,311 mL
   Urine:
                                                                    650 mL
                                                                    750 mL
   NG:
                                                                    200 mL
                                                                    100 mL
   Stool:
   Drains:
                                                                    295 mL
                                                                    210 mL
   Balance:
                                                                   -732 mL
                                                                 -4,241 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   Vt (Spontaneous): 558 (546 - 595) mL
   RR (Set): 32
   RR (Spontaneous): 7
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, RR >35, Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: 7.36/37/69/20/-3
   Ve: 18 L/min
   PaO2 / FiO2: 99
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.8 g/dL
   51 K/uL
   168 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.5 mEq/L
   71 mg/dL
   99 mEq/L
   129 mEq/L
   23.0 %
   2.6 K/uL
        [image002.jpg]
                             [**2126-6-27**]  06:03 AM
                             [**2126-6-27**]  12:32 PM
                             [**2126-6-27**]  12:52 PM
                             [**2126-6-27**]  06:12 PM
                             [**2126-6-27**]  06:41 PM
                             [**2126-6-27**]  11:59 PM
                             [**2126-6-28**]  12:03 AM
                             [**2126-6-28**]  01:13 AM
                             [**2126-6-28**]  05:46 AM
                             [**2126-6-28**]  05:59 AM
   WBC
   2.6
   Hct
   25.4
   22.3
   21.6
   23.0
   Plt
   60
   42
   38
   51
   Cr
   2.0
   1.8
   1.6
   TCO2
   22
   21
   21
   22
   22
   Glucose
   174
   137
   173
   168
   Other labs: PT / PTT / INR:11.9/30.3/1.0, CK / CKMB /
   Troponin-T:83/8/1.91, ALT / AST:71/109, Alk Phos / T Bili:169/3.9,
   Amylase / Lipase:53/16, Differential-Neuts:94.7 %, Band:0.0 %,
   Lymph:1.8 %, Mono:3.5 %, Eos:0.0 %, D-dimer:2397 ng/mL, Fibrinogen:512
   mg/dL, Lactic Acid:2.0 mmol/L, Albumin:1.6 g/dL, LDH:658 IU/L, Ca++:7.8
   mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   65M s/p nonablative matched unrelated donor SCT for MDS, complicated by
   GVHD now with pneumonia and ARDS, sepsis, evolving multisystem organ
   failure.
   RESPIRATORY FAILURE -- persistent.  Attributed to infection
   (parainfluenza, adenovirus).  At risk for ARDS, but also markedly
   positive fluid balance (may be component of left heart failure).
   Unclear whether component of GVHD.  Continue mechanical ventilation -->
   optimize PEEP, hope to decrease FiO2 < 60% antimicrobials.  Monitor
   ABG, maintain pH 7.35-7.40, pO2 >60 mmHg SaO2 > 90%.  Desire to
   maintain net negative fluid balance, if possible.  Optimize sedation to
   minimize dysynchrony.
   HYPOTENSION -- Recurrent.  Attributable to sepsis, intravascular
   depletion.  Currently stable, but monitor closely.
   ACALCULOUS CHOLECYSTITIS -- s/p percutaneous drainage --> monitor.
   PERICARDIAL EFFUSION -- consider repeat echo to assess size of
   pericardial effusion.  No evidence for tamponade.
   CAD -- recent acute MI, RV distribution.  Known underlying CAD.
   Continue to optimize hemodynamics (minimize hypotension).  Continue
   statin.  Attempt trial of b-blocker if tolerates hemodynamically.
   Consider repeat cardiac echo.
   PNEUMONIA -- Parainfluenza, and now possibly Stenotrophomonas -->
   Cefopime, Cipro, Bactrim.
   SEPSIS -- Antimicrobial coverage expanded.  Likely attributable to GNR
   bacteremia -->  Vanco, Cefepime, Mycofungin, Ciprofloxicin, Cidofovir.
   At risk for fungal superinfection.
   BACTEREMIA -- GNR, concern for either pulmonary source, GI source (GI
   tract, hepatobiliary source), urinary source.  Abd US suggested finding
   consistent with acalculous cholecystitis.  Monitor serial LFTs, check
   lactic acid, consider abd CT (to assess for bowel ischemia).
   GI BLEED -- underlying GVHD, but now concern for gastritis or PUD. GI
   bleed in context of thrombocytopenia.  GI to consider EGD.
   RENAL FAILURE -- developed anuria, concern for medication related and
   hemodynamic (hypotension) --> ATN (muddy brown casts by microscopy).
   Now on renal replacement therapy (CVVH).
   FLUIDS -- net volume overloaded.  Desire net negative fluid balance
   (50-100 ml/hr)
   LEUKOPENIA -- bone marrow failure/suppression vs. medication effect.
   Monitor.
   ANEMIA -- bone marrow suppression and active bleeding.  Uremia may be
   contributing to platelet dysfunction.  Now with contribution of GI
   bleed.
   THROMBOCYTOPENIA -- continue to transfuse if <10 or active bleeding.
   Now contribution of uremia --> platelet dysfunction.
   Elevated LFTs: Stable. -- attributed to GVDH vs. drug effect.   Also
   consider cholestasis [**2-4**] prolonged TPN requirement.
   RASH -- [**2-4**] GVHD.  Monitor FS with HISS tapering steroids. Cellcept,
   cyclosporin.
   NUTRITIONAL SUPPORT -- TPN.
   MDS s/p BMT --  Continue Cyclosporine, Ursodiol, Acyclovir, micafungin,
   cellcept, methylprednisolone, budesonide.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2126-6-28**] 09:50 AM 73 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   Multi Lumen - [**2126-6-25**] 04:55 PM
   Dialysis Catheter - [**2126-6-25**] 07:42 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2126-06-29 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory distress, s/p BMT
   24 Hour Events:
   -pO2 decreasing, increased FiO2 to 80%, pt became
   -uable to wean vent, PEEP increased to 10-->12, FIO2 increased to 80%,
   eventually switched back to pressure support in attempt to synchronize
   with vent, improve hypercapnea.
   -cidofivir dose given per ID recs
   -meropenem dc'd per ID recs
   -cyclosporin redosed, trough pending
   -blood cxs redrawn, ID would like to wait for more surveilance cultures
   before pulling additional lines
   -versed increased yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2126-6-26**] 10:49 AM
   Ciprofloxacin - [**2126-6-27**] 07:16 AM
   Vancomycin - [**2126-6-28**] 08:36 AM
   Bactrim (SMX/TMP) - [**2126-6-29**] 12:00 AM
   Micafungin - [**2126-6-29**] 04:00 AM
   Meropenem - [**2126-6-29**] 05:34 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Fentanyl (Concentrate) - 350 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Fentanyl - [**2126-6-28**] 06:19 PM
   Pantoprazole (Protonix) - [**2126-6-28**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-6-29**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.2
C (95.4
   HR: 80 (73 - 112) bpm
   BP: 94/43(58) {88/43(58) - 127/57(75)} mmHg
   RR: 33 (4 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.6 kg (admission): 69 kg
             Total In:
                                                                 11,160 mL
                                                                  2,431 mL
   PO:
             TF:
   IVF:
                                                                  8,101 mL
                                                                  1,889 mL
   Blood products:
                                                                  1,306 mL
   Total out:
                                                                 16,764 mL
                                                                  2,870 mL
   Urine:
                                                                  1,250 mL
   NG:
                                                                    100 mL
                                                                    100 mL
   Stool:
   Drains:
                                                                    310 mL
                                                                    200 mL
   Balance:
                                                                 -5,604 mL
                                                                   -439 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   Vt (Spontaneous): 600 (508 - 600) mL
   RR (Set): 32
   RR (Spontaneous): 1
   PEEP: 12 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: 7.29/40/78.[**Numeric Identifier 7**]/21/-6
   Ve: 18.5 L/min
   PaO2 / FiO2: 99
   Physical Examination
   GENERAL: On vent, not responsive
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor.  Eyes taped.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].  JVP not visualized
   LUNGS: Rhonchorus bilaterally
   ABDOMEN: Decreased BS. Soft, NT, ND.  No HSM
   EXTREMITIES: 2+ Bilateral edema, WWP
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: sedated
   Labs / Radiology
   28 K/uL
   9.0 g/dL
   132 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.2 mEq/L
   50 mg/dL
   105 mEq/L
   135 mEq/L
   26.6 %
   2.1 K/uL
        [image002.jpg]
                             [**2126-6-28**]  05:59 AM
                             [**2126-6-28**]  11:47 AM
                             [**2126-6-28**]  12:06 PM
                             [**2126-6-28**]  05:48 PM
                             [**2126-6-28**]  06:05 PM
                             [**2126-6-28**]  10:54 PM
                             [**2126-6-28**]  11:20 PM
                             [**2126-6-29**]  01:23 AM
                             [**2126-6-29**]  04:29 AM
                             [**2126-6-29**]  05:11 AM
   WBC
   2.8
   2.1
   Hct
   28.1
   28.0
   26.6
   Plt
   40
   28
   Cr
   1.6
   1.2
   TCO2
   22
   22
   21
   21
   20
   20
   Glucose
   169
   156
   132
   Other labs: PT / PTT / INR:12.5/28.9/1.1, CK / CKMB /
   Troponin-T:83/8/1.91, ALT / AST:78/114, Alk Phos / T Bili:194/4.1,
   Amylase / Lipase:53/16, Differential-Neuts:94.7 %, Band:0.0 %,
   Lymph:1.8 %, Mono:3.5 %, Eos:0.0 %, D-dimer:2397 ng/mL, Fibrinogen:512
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.6 g/dL, LDH:564 IU/L, Ca++:7.4
   mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 CHOLECYSTITIS, ACALCULOUS
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 SHOCK, SEPTIC
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 DIARRHEA
 LIVER FUNCTION ABNORMALITIES
 HYPOXEMIA
   65M w MDS s/p SCT ([**4-/2126**]), CAD, initially admitted for diarrhea,
   transferred to the [**Hospital Unit Name 4**] for hypoxia, now s/p intubation.
   # Respiratory failure:  Likely [**2-4**] viral infection w Sternotrophomonas
   xanthomonas [**6-20**]. Parainfluenza Type 3 in nasal swab ([**6-18**]). Adenovirus
   load has decreased. [**Month (only) 8**] also have worsened hypoxia from pulm edema vs
   GVHDz in the lung. S/p intubation [**6-20**]. Clindamycin ([**Date range (1) 7235**]). Pt
   with difficulty on vent overnight, requiring increasing FIO2 and
   ultimately swich to pressure control. Cidofovir administered yesterday
   despite ARF per ID recs.
   - vancomycin ([**6-18**]- ), cipro
   - Bactrim for GNR in Bcx from art line start [**6-26**]
   - miconazole for fungal coverage
   - meopenem dc
d per ID recs
   - continue mechanical ventilation, on pressure control, PEEP reduced in
   the context of hypotension.  Re-address vent weaning when pt stable.
   Will increase sedation to help with synchrony, may require paralysis if
   pt continues to be dysynchronous with vent.
   - continue to follow BCxs, Urine cxs negative
   - check ETT tube today
   # Hypotension: Pt with hypotension to the 80s overnight.  He was
   negative 5 L yesterday.  Concern for intravascular volume depletion as
   well as sepsis.  Pt was given 500 ccs of NS bolus, run positive on
   [**Month/Year (2) **].  Pressors restarted
   - continue pressors as needed
   - PEEP decreased to 10
   - transfuse one unit platelets, one unit PRBCS
   - central line access available
   - standing type and screen
   - consider albumin
   - consider stress dose steroids
   # GNR bacteremia: possible sepsis with hypothermia, hypotension,
   bandemia. Also with very decreased BS.  UA, bile cxs negative.
   - started on cefepime on [**6-26**], switched to Bactrim when [**Month/Year (2) **] started
   - monitor pigtail drain output
   - Surveillance cultures this am, follow up cxs and continue
   surveillance
   - A-line tip cx pending
   - ID recommends re-siting all lines, art line replaced, will discuss
   need to replace other lines if cxs remain positive.
   .
   # Dilated CBD: 1.6 cm by U/S, s/p percutaneous cholecystostomy by IR
   [**6-26**], no complications.  Reluctant to do ERCP at this time given
   bleeding risk with sphincterotomy and good drainage with pigtail
   catheters.  Final bile cxs negative.
   - discuss with IR and billiary team if there is need for ERCP
   - follow LFTs
   # Bloody diarrhea/coffee ground NG aspirate: Has had extensive prior
   work-up including sigmoidoscopy [**5-11**] with path being c/w GVHD. S/p
   inflixumab on [**6-13**]. Coffee grounds NG aspirate [**6-26**], grossly bloody
   diarrhea [**6-27**].  No further episodes of bleeding.  1 unit PRBCs given
   this AM.
   - continue protonix drip
   - continue current immunosuppresion with methylprednisolone,
   budesonide, cyclosporine, and cellcept
   - monitor lytes
   - continue bowel meds
   - follow crit/plt q6 hour
   - maintain platelets >50, will reassess need for further platelet
   transfusion tomorrow given that he is no longer actively bleeding
   # Caridac ischemia/Afib with RVR: AM of [**6-24**] elevations.
   Troponins peaked [**3-25**]. RV hypokinesis. Concern for CAD vs vasospasm due
   to pressors. Is preload dependent.  Appreciate cardiology input.
   - continue amiodarone drip for rhythm control in the context of recent
   afib and hypotension
   - platelets remain low, will not give ASA
   - Hold on cath due to inability to anticoagulate [**2-4**] low plt
   # Acute Renal Failure: likely secondary to cidovir dose. Foley
   irrigated overnight. Started on [**Last Name (LF) **], [**First Name3 (LF) 124**] add volume back given
   hypotension.
   - renal following
   - Q6 lytes
   - renally dose meds
   - avoid further nephrotoxins
   # Acute Anemia: Close to prior baseline.
   - Q6 crit
   # Elevated LFTs: Remain elevated but stable. Differential diagnosis
   includes GVHD of liver vs. drug effect, cholestasis [**2-4**] prolonged TPN
   requirement. MRCP limited by pt movement but did demonstrate dilation
   of extrahepatic duct without any stones.
   - Continue to monitor daily.
   - RUQ U/S
   .
   # Rash: [**2-4**] GVHD. Plan as above. Monitor FS with HISS while on high
   dose steroids. Stable
   .
   # MDS s/p BMT: cured on repeat bone biopsy
   - Continue Cyclosporine (recently redosed), Ursodiol, Acyclovir,
   micafungin, cellcept, methylprednisolone, budesonide, atovaquone
   - Coordinate with BMT
   - monitor neutrophil count
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2126-6-28**] 09:50 AM 73 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   Multi Lumen - [**2126-6-25**] 04:55 PM
   Dialysis Catheter - [**2126-6-25**] 07:42 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: with daughter and wife
   [**Name (NI) 156**] status: Full code
   Disposition:

2126-06-29 09:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Experienced net clinical decline overnight, fall in pO2 requireing
   increase in FiO2 accompanied by dysynchrony, and change ventilator mode
   to PCV.
   Also developed hypotension this AM --> required iv fluid and resuming
   vasopressor.
   Remains on CVVH.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2126-6-26**] 10:49 AM
   Ciprofloxacin - [**2126-6-27**] 07:16 AM
   Vancomycin - [**2126-6-28**] 08:36 AM
   Bactrim (SMX/TMP) - [**2126-6-29**] 12:00 AM
   Micafungin - [**2126-6-29**] 04:00 AM
   Meropenem - [**2126-6-29**] 05:34 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Fentanyl (Concentrate) - 350 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   Phenylephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2126-6-28**] 06:19 PM
   Pantoprazole (Protonix) - [**2126-6-28**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss,
   hypothermia
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, Suicidal, No(t) Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-6-29**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.2
C (95.4
   HR: 80 (75 - 112) bpm
   BP: 94/43(58) {88/43(58) - 127/57(75)} mmHg
   RR: 33 (4 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107 kg (admission): 69 kg
             Total In:
                                                                 11,160 mL
                                                                  3,151 mL
   PO:
             TF:
   IVF:
                                                                  8,101 mL
                                                                  2,521 mL
   Blood products:
                                                                  1,306 mL
   Total out:
                                                                 16,764 mL
                                                                  3,059 mL
   Urine:
                                                                  1,250 mL
   NG:
                                                                    100 mL
                                                                    100 mL
   Stool:
   Drains:
                                                                    310 mL
                                                                    200 mL
   Balance:
                                                                 -5,604 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   Vt (Spontaneous): 552 (508 - 600) mL
   RR (Set): 32
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: 7.29/40/78.[**Numeric Identifier 7**]/21/-6
   Ve: 18.1 L/min
   PaO2 / FiO2: 99
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   28 K/uL
   132 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.2 mEq/L
   50 mg/dL
   105 mEq/L
   135 mEq/L
   26.6 %
   2.1 K/uL
        [image002.jpg]
                             [**2126-6-28**]  05:59 AM
                             [**2126-6-28**]  11:47 AM
                             [**2126-6-28**]  12:06 PM
                             [**2126-6-28**]  05:48 PM
                             [**2126-6-28**]  06:05 PM
                             [**2126-6-28**]  10:54 PM
                             [**2126-6-28**]  11:20 PM
                             [**2126-6-29**]  01:23 AM
                             [**2126-6-29**]  04:29 AM
                             [**2126-6-29**]  05:11 AM
   WBC
   2.8
   2.1
   Hct
   28.1
   28.0
   26.6
   Plt
   40
   28
   Cr
   1.6
   1.2
   TCO2
   22
   22
   21
   21
   20
   20
   Glucose
   169
   156
   132
   Other labs: PT / PTT / INR:12.5/28.9/1.1, CK / CKMB /
   Troponin-T:83/8/1.91, ALT / AST:78/114, Alk Phos / T Bili:194/4.1,
   Amylase / Lipase:53/16, Differential-Neuts:94.7 %, Band:0.0 %,
   Lymph:1.8 %, Mono:3.5 %, Eos:0.0 %, D-dimer:2397 ng/mL, Fibrinogen:512
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.6 g/dL, LDH:564 IU/L, Ca++:7.4
   mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   65 yom s/p nonablative matched unrelated donor stem cell transplant for
   MDS, complicated by GVHD now with pneumonia and ARDS, sepsis, evolving
   multisystem organ failure.
   RESPIRATORY FAILURE -- Persistent.  Diffuse airspace disease.
   Attributed to infection (parainfluenza, adenovirus), ARDS, component of
   cardiogenic pulmonary edema (LV dysfunction and markedly positive fluid
   balance).  Unclear whether component of GVHD in lungs.  Also consider
   possible alveolar hemorrhage.  Continue mechanical ventilation -->
   optimize PEEP, hope to decrease FiO2 < 70%.  Continue antimicrobials.
   Monitor ABG, maintain pH 7.35-7.40, pO2 >60 mmHg SaO2 > 90%.  Desire to
   maintain net negative fluid balance, if possible.  Optimize sedation to
   minimize dysynchrony --> may require paralysis.
   HYPOTENSION -- Recurrent.  Attributable to sepsis, intravascular
   depletion (significantly net negative fluid balance on CVVH).  Consider
   component of relative adrenal insufficiency (receiving lower dose
   solumedrol).  Currently stablized, but remains on vasopressor and
   condition guarded.  Maintain MAP > 60 mmHg.
   ACALCULOUS CHOLECYSTITIS -- s/p percutaneous drainage --> good output,
   suggesting patent cystic duct and (hopefully) decompression of biliary
   tree.  Monitor drainage.
   CAD -- recent acute MI, RV distribution.  Known underlying CAD.
   Continue to optimize hemodynamics (minimize hypotension).  Continue
   statin.  Attempt trial of b-blocker if tolerates hemodynamically.
   Consider repeat cardiac echo.
   PNEUMONIA -- Parainfluenza, and now possibly Stenotrophomonas -->
   Bactrim.
   SEPSIS -- Antimicrobial coverage expanded.  Likely attributable to GNR
   bacteremia -->  Vanco, Bactrim, Mycofungin, Ciprofloxicin, Cidofovir.
   Persisitent bacteremia suggests ongoing sequested source, such as
   infected lines.  A-line changed, and idealy would prefer to change
   central venous catheters, but access limited.  Also at risk for fungal
   superinfection (intubated, broad-spectrum antimicrobials, steroids,
   TPN).
   BACTEREMIA -- Persistent GNR bacteremia.  Concern for either pulmonary
   source, GI source (GI tract, hepatobiliary source), urinary source.
   Monitor serial LFTs, check lactic acid, consider abd CT (to assess for
   bowel ischemia).  [**Month (only) 8**] need to replace lines.  High-grade bacteremia
   repeat cardiac echo.
   GI BLEED -- underlying GVHD, but now concern for gastritis or PUD. GI
   bleed in context of thrombocytopenia.  GI to consider EGD if escalates.
   RENAL FAILURE -- developed anuria, concern for medication related and
   hemodynamic (hypotension) --> ATN (muddy brown casts by microscopy).
   Now on renal replacement therapy (CVVH).  Continue.
   FLUIDS -- net volume overloaded.  Desire net negative fluid balance
   (50-100 ml/hr) if tolerated by BP parameters.
   PERICARDIAL EFFUSION -- consider repeat echo to assess size of
   pericardial effusion.  No evidence for tamponade.  No tachycardia.
   LEUKOPENIA -- bone marrow failure/suppression vs. medication effect.
   Monitor.
   ANEMIA -- bone marrow suppression and active bleeding.  Uremia may be
   contributing to platelet dysfunction.  Now with contribution of GI
   bleed.
   THROMBOCYTOPENIA -- continue to transfuse if <10 or active bleeding.
   Now contribution of uremia --> platelet dysfunction.  Hope to try to
   maintain >50 empirically.
   Elevated LFTs: Stable. -- attributed to GVDH vs. drug effect.   Also
   consider cholestasis [**2-4**] prolonged TPN requirement.
   RASH -- [**2-4**] GVHD.  Monitor FS with HISS tapering steroids. Cellcept,
   cyclosporin.
   NUTRITIONAL SUPPORT -- TPN.
   MDS s/p BMT --  Continue Cyclosporine, Ursodiol, Acyclovir, micafungin,
   cellcept, methylprednisolone, budesonide.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2126-6-28**] 09:50 AM 73 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   Multi Lumen - [**2126-6-25**] 04:55 PM
   Dialysis Catheter - [**2126-6-25**] 07:42 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending
   Progressive clinical decline over course of past 12 hours.  Interval
   development of profound acidosis, progressive hypoxemia, and
   hemodynamic instability.  Required increased FiO2 to 100%, change to
   PCV mode, increased sedation and paralysis.  CVVH stopped due to
   hypotension, now on HCO3 drip.  Persistent acidosis pH=<7.10.  Rising
   pCO2.  Suspect attributable to progressive sepsis (GNR), on background
   of pneumonia, ARDS, acute anuric renal failure, bone marrow
   suppression, thrombocytopenia, GVHD.
   Family meeting with 3 sons and daughter, updated medical condition and
   answered all questions.  Updated wife by telephone, answered all
   questions.  Overall gravely ill, poor prognosis.
   Plan to continue current level of care.
   Total time providing critical care at bedside= 125 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 275**] [**Last Name (NamePattern1) 276**], MD
   on:[**2126-6-29**] 20:44 ------

2126-06-30 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2126-6-29**] 01:46 PM
   - restarted on neo, then vaso
   - paralyzed
   - Ventilation switch from AC to PC at 1700 on [**6-29**]
   - restarted on [**Month/Year (2) **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2126-6-27**] 07:16 AM
   Meropenem - [**2126-6-29**] 05:34 AM
   Vancomycin - [**2126-6-29**] 08:13 AM
   Bactrim (SMX/TMP) - [**2126-6-30**] 01:00 AM
   Micafungin - [**2126-6-30**] 05:12 AM
   Infusions:
   Cisatracurium - 0.08 mg/Kg/hour
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 12 mg/hour
   Amiodarone - 0.5 mg/min
   Phenylephrine - 2.5 mcg/Kg/min
   Fentanyl (Concentrate) - 350.3 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2126-6-29**] 05:00 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2126-6-29**] 06:31 PM
   Cisatracurium - [**2126-6-29**] 07:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-6-30**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 34.1
C (93.3
   HR: 73 (73 - 133) bpm
   BP: 102/56(74) {70/43(55) - 124/66(88)} mmHg
   RR: 38 (0 - 400) insp/min
   SpO2: 85%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107 kg (admission): 69 kg
             Total In:
                                                                 10,510 mL
                                                                  4,119 mL
   PO:
             TF:
   IVF:
                                                                  8,131 mL
                                                                  3,629 mL
   Blood products:
                                                                    476 mL
   Total out:
                                                                  5,282 mL
                                                                  1,605 mL
   Urine:
                                                                    525 mL
   NG:
                                                                    100 mL
                                                                    100 mL
   Stool:
   Drains:
                                                                    200 mL
   Balance:
                                                                  5,228 mL
                                                                  2,514 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 473 (473 - 800) mL
   PS : 12 cmH2O
   RR (Set): 38
   RR (Spontaneous): 0
   PEEP: 17 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Sao2 < 90%, RR >35, Hemodynamic
   Instability, No Spon Resp
   PIP: 36 cmH2O
   Plateau: 32 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 85%
   ABG: 7.10/73.[**Numeric Identifier 252**]/44/22/-9
   Ve: 17.9 L/min
   PaO2 / FiO2: 44
   Physical Examination
   GENERAL: On vent, not responsive
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor.  Eyes taped.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].  JVP not visualized
   LUNGS: Rhonchorus bilaterally
   ABDOMEN: Decreased BS. Soft, NT, ND.  No HSM
   EXTREMITIES: 2+ Bilateral edema, WWP
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: sedated
   Labs / Radiology
   51 K/uL
   11.1 g/dL
   289 mg/dL
   1.5 mg/dL
   22 mEq/L
   4.3 mEq/L
   56 mg/dL
   98 mEq/L
   125 mEq/L
   33.0 %
   20.9 K/uL
        [image002.jpg]
                             [**2126-6-29**]  12:20 PM
                             [**2126-6-29**]  02:40 PM
                             [**2126-6-29**]  05:07 PM
                             [**2126-6-29**]  05:17 PM
                             [**2126-6-29**]  06:44 PM
                             [**2126-6-29**]  08:06 PM
                             [**2126-6-29**]  11:40 PM
                             [**2126-6-30**]  02:30 AM
                             [**2126-6-30**]  02:41 AM
                             [**2126-6-30**]  05:05 AM
   WBC
   15.0
   20.9
   Hct
   38.4
   33.0
   Plt
   80
   51
   Cr
   1.6
   1.5
   TCO2
   21
   17
   20
   20
   22
   22
   24
   24
   Glucose
   202
   289
   Other labs: PT / PTT / INR:14.6/41.5/1.3, CK / CKMB /
   Troponin-T:83/8/1.91, ALT / AST:3458/7528, Alk Phos / T Bili:636/5.4,
   Amylase / Lipase:53/16, Differential-Neuts:94.7 %, Band:0.0 %,
   Lymph:1.8 %, Mono:3.5 %, Eos:0.0 %, D-dimer:2397 ng/mL, Fibrinogen:512
   mg/dL, Lactic Acid:3.8 mmol/L, Albumin:1.6 g/dL, LDH:1396 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 CHOLECYSTITIS, ACALCULOUS
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 SHOCK, SEPTIC
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SHOCK, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 DIARRHEA
 LIVER FUNCTION ABNORMALITIES
 HYPOXEMIA
   65M w MDS s/p SCT ([**4-/2126**]), CAD, initially admitted for diarrhea,
   transferred to the [**Hospital Unit Name 4**] for hypoxia, now s/p intubation.
   # Respiratory failure:  Likely [**2-4**] viral infection w Sternotrophomonas
   xanthomonas [**6-20**]. Parainfluenza Type 3 in nasal swab ([**6-18**]). Adenovirus
   load has decreased. [**Month (only) 8**] also have worsened hypoxia from pulm edema vs
   GVHDz in the lung. S/p intubation [**6-20**]. Clindamycin ([**Date range (1) 7235**]). Pt
   with difficulty on vent overnight, requiring increasing FIO2 and
   ultimately swich to pressure control. Cidofovir administered yesterday
   despite ARF per ID recs.
   - vancomycin ([**6-18**]- ), cipro
   - Bactrim for GNR in Bcx from art line start [**6-26**]
   - miconazole for fungal coverage
   - meopenem dc
d per ID recs
   - continue mechanical ventilation, on pressure control, PEEP reduced in
   the context of hypotension.  Re-address vent weaning when pt stable.
   Will increase sedation to help with synchrony, may require paralysis if
   pt continues to be dysynchronous with vent.
   - continue to follow BCxs, Urine cxs negative
   - check ETT tube today
   # Hypotension: Pt with hypotension to the 80s overnight.  He was
   negative 5 L yesterday.  Concern for intravascular volume depletion as
   well as sepsis.  Pt was given 500 ccs of NS bolus, run positive on
   [**Month/Year (2) **].  Pressors restarted
   - continue pressors as needed
   - PEEP decreased to 10
   - transfuse one unit platelets, one unit PRBCS
   - central line access available
   - standing type and screen
   - consider albumin
   - consider stress dose steroids
   # GNR bacteremia: possible sepsis with hypothermia, hypotension,
   bandemia. Also with very decreased BS.  UA, bile cxs negative.
   - started on cefepime on [**6-26**], switched to Bactrim when [**Month/Year (2) **] started
   - monitor pigtail drain output
   - Surveillance cultures this am, follow up cxs and continue
   surveillance
   - A-line tip cx pending
   - ID recommends re-siting all lines, art line replaced, will discuss
   need to replace other lines if cxs remain positive.
   .
   # Dilated CBD: 1.6 cm by U/S, s/p percutaneous cholecystostomy by IR
   [**6-26**], no complications.  Reluctant to do ERCP at this time given
   bleeding risk with sphincterotomy and good drainage with pigtail
   catheters.  Final bile cxs negative.
   - discuss with IR and billiary team if there is need for ERCP
   - follow LFTs
   # Bloody diarrhea/coffee ground NG aspirate: Has had extensive prior
   work-up including sigmoidoscopy [**5-11**] with path being c/w GVHD. S/p
   inflixumab on [**6-13**]. Coffee grounds NG aspirate [**6-26**], grossly bloody
   diarrhea [**6-27**].  No further episodes of bleeding.  1 unit PRBCs given
   this AM.
   - continue protonix drip
   - continue current immunosuppresion with methylprednisolone,
   budesonide, cyclosporine, and cellcept
   - monitor lytes
   - continue bowel meds
   - follow crit/plt q6 hour
   - maintain platelets >50, will reassess need for further platelet
   transfusion tomorrow given that he is no longer actively bleeding
   # Caridac ischemia/Afib with RVR: AM of [**6-24**] elevations.
   Troponins peaked [**3-25**]. RV hypokinesis. Concern for CAD vs vasospasm due
   to pressors. Is preload dependent.  Appreciate cardiology input.
   - continue amiodarone drip for rhythm control in the context of recent
   afib and hypotension
 switch to PO?
   - platelets remain low, will not give ASA
   - Hold on cath due to inability to anticoagulate [**2-4**] low plt
   # Acute Renal Failure: likely secondary to cidovir dose. Foley
   irrigated overnight. Started on [**Last Name (LF) **], [**First Name3 (LF) 124**] add volume back given
   hypotension.
   - renal following
   - Q6 lytes
   - renally dose meds
   - avoid further nephrotoxins
   # Acute Anemia: Close to prior baseline.
   - Q6 crit
   # Elevated LFTs: Remain elevated but stable. Differential diagnosis
   includes GVHD of liver vs. drug effect, cholestasis [**2-4**] prolonged TPN
   requirement. MRCP limited by pt movement but did demonstrate dilation
   of extrahepatic duct without any stones.
   - Continue to monitor daily.
   - RUQ U/S
   .
   # Rash: [**2-4**] GVHD. Plan as above. Monitor FS with HISS while on high
   dose steroids. Stable
   .
   # MDS s/p BMT: cured on repeat bone biopsy
   - Continue Cyclosporine (recently redosed), Ursodiol, Acyclovir,
   micafungin, cellcept, methylprednisolone, budesonide, atovaquone
   - Coordinate with BMT
   - monitor neutrophil count
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2126-6-29**] 11:11 AM 73 mL/hour
   Glycemic Control:  Insulin SS
   Lines:
   Tunneled (Hickman) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   Multi Lumen - [**2126-6-25**] 04:55 PM
   Dialysis Catheter - [**2126-6-25**] 07:42 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer:  Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-06-30 09:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated, sedated and paralyzed.
   Remains hypotensive, now on 2 vasopressors.  Repeat cardiac echo
   without evidence for cardiac tamponade.
   Marked acidemia, persistent despite HcO3 drip and CVVH (required
   discontinuation for several hours due to .
   Progressive lactic acidosis.
   Interval development of shock liver.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2126-6-29**] 05:34 AM
   Vancomycin - [**2126-6-29**] 08:13 AM
   Bactrim (SMX/TMP) - [**2126-6-30**] 01:00 AM
   Micafungin - [**2126-6-30**] 05:12 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Fentanyl (Concentrate) - 350.3 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   Cisatracurium - 0.08 mg/Kg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2126-6-29**] 05:00 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2126-6-29**] 06:31 PM
   Cisatracurium - [**2126-6-29**] 07:25 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-6-30**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 35.3
C (95.6
   HR: 80 (72 - 133) bpm
   BP: 84/55(67) {70/46(55) - 124/66(88)} mmHg
   RR: 31 (0 - 400) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107 kg (admission): 69 kg
             Total In:
                                                                 10,510 mL
                                                                  5,343 mL
   PO:
             TF:
   IVF:
                                                                  8,131 mL
                                                                  4,711 mL
   Blood products:
                                                                    476 mL
   Total out:
                                                                  5,282 mL
                                                                  3,391 mL
   Urine:
                                                                    525 mL
                                                                     50 mL
   NG:
                                                                    100 mL
                                                                    100 mL
   Stool:
   Drains:
                                                                    200 mL
   Balance:
                                                                  5,228 mL
                                                                  1,952 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 511 (473 - 800) mL
   PS : 12 cmH2O
   RR (Set): 38
   RR (Spontaneous): 0
   PEEP: 17 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Sao2 < 90%, RR >35, Hemodynamic
   Instability, No Spon Resp
   PIP: 39 cmH2O
   Plateau: 32 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 89%
   ABG: 7.10/73.[**Numeric Identifier 252**]/44/22/-9
   Ve: 19.7 L/min
   PaO2 / FiO2: 44
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Toxic-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, No(t) Bowel sounds present,
   Distended, No(t) Tender: , Obese
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: mottling, No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, Paralyzed, Tone: Decreased
   Labs / Radiology
   11.1 g/dL
   51 K/uL
   289 mg/dL
   1.5 mg/dL
   22 mEq/L
   4.3 mEq/L
   56 mg/dL
   98 mEq/L
   125 mEq/L
   33.0 %
   20.9 K/uL
        [image002.jpg]
                             [**2126-6-29**]  12:20 PM
                             [**2126-6-29**]  02:40 PM
                             [**2126-6-29**]  05:07 PM
                             [**2126-6-29**]  05:17 PM
                             [**2126-6-29**]  06:44 PM
                             [**2126-6-29**]  08:06 PM
                             [**2126-6-29**]  11:40 PM
                             [**2126-6-30**]  02:30 AM
                             [**2126-6-30**]  02:41 AM
                             [**2126-6-30**]  05:05 AM
   WBC
   15.0
   20.9
   Hct
   38.4
   33.0
   Plt
   80
   51
   Cr
   1.6
   1.5
   TCO2
   21
   17
   20
   20
   22
   22
   24
   24
   Glucose
   202
   289
   Other labs: PT / PTT / INR:14.6/41.5/1.3, CK / CKMB /
   Troponin-T:83/8/1.91, ALT / AST:3458/7528, Alk Phos / T Bili:636/5.4,
   Amylase / Lipase:53/16, Differential-Neuts:94.7 %, Band:0.0 %,
   Lymph:1.8 %, Mono:3.5 %, Eos:0.0 %, D-dimer:2397 ng/mL, Fibrinogen:512
   mg/dL, Lactic Acid:3.8 mmol/L, Albumin:1.6 g/dL, LDH:1396 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   65 yom s/p nonablative matched unrelated donor stem cell transplant for
   MDS, complicated by GVHD now with pneumonia and ARDS, GNR sepsis,
   evolving multisystem organ failure.
   RESPIRATORY FAILURE -- Persistent.  Diffuse airspace disease.
   Attributed to infection (parainfluenza, adenovirus), ARDS, component of
   cardiogenic pulmonary edema (LV dysfunction and markedly positive fluid
   balance).  Unclear whether component of GVHD in lungs.  Also consider
   possible alveolar hemorrhage.  Continue mechanical ventilation -->
   optimize PEEP, hope to decrease FiO2 < 70%.  Continue antimicrobials.
   Monitor ABG.  Desire to maintain net negative fluid balance, if
   possible.  Optimize sedation while paralyzed to minimize dysynchrony.
   HYPOTENSION -- Recurrent.  Attributable to sepsis, intravascular
   depletion (significantly net negative fluid balance on CVVH).  Consider
   component of relative adrenal insufficiency (receiving lower dose
   solumedrol) --> now receiving stress-dose steroids.  Currently
   stablized, but remains on vasopressors and condition guarded.  Maintain
   MAP > 60 mmHg.
   ACALCULOUS CHOLECYSTITIS -- s/p percutaneous drainage --> good output,
   suggesting patent cystic duct and (hopefully) decompression of biliary
   tree.  Monitor drainage.
   CAD -- recent acute MI, RV distribution.  Known underlying CAD.
   Continue to optimize hemodynamics (minimize hypotension).  Continue
   statin.  Attempt trial of b-blocker if tolerates hemodynamically.
   Consider repeat cardiac echo.
   PNEUMONIA -- Parainfluenza, and now possibly Stenotrophomonas -->
   Bactrim.
   SEPSIS -- Antimicrobial coverage expanded.  Likely attributable to GNR
   bacteremia -->  Vanco, Bactrim, Mycofungin, Ciprofloxicin, Cidofovir.
   Persisitent bacteremia suggests ongoing sequested source, such as
   infected lines.  A-line changed, and idealy would prefer to change
   central venous catheters, but access limited.  Also at risk for fungal
   superinfection (intubated, broad-spectrum antimicrobials, steroids,
   TPN).
   BACTEREMIA -- Persistent GNR bacteremia.  Concern for either pulmonary
   source, GI source (GI tract, hepatobiliary source), urinary source.
   Monitor serial LFTs, check lactic acid, consider abd CT (to assess for
   bowel ischemia).  [**Month (only) 8**] need to replace lines.  High-grade bacteremia-->
   repeat cardiac echo.
   GI BLEED -- underlying GVHD, but now concern for gastritis or PUD. GI
   bleed in context of thrombocytopenia.  GI to consider EGD if escalates.
   RENAL FAILURE -- developed anuria, concern for medication related and
   hemodynamic (hypotension) --> ATN (muddy brown casts by microscopy).
   Now on renal replacement therapy (CVVH).  Continue.
   FLUIDS -- net volume overloaded.  Desire net negative fluid balance
   (50-100 ml/hr) if tolerated by BP parameters.  However, continues
   require net fluid positive balance.
   PERICARDIAL EFFUSION -- consider repeat echo to assess size of
   pericardial effusion.  No evidence for tamponade.  No tachycardia.
   LEUKOPENIA -- bone marrow failure/suppression vs. medication effect.
   Monitor.
   ANEMIA -- bone marrow suppression and active bleeding.  Uremia may be
   contributing to platelet dysfunction.  Now with contribution of GI
   bleed.
   THROMBOCYTOPENIA -- continue to transfuse if <10 or active bleeding.
   Now contribution of uremia --> platelet dysfunction.  Hope to try to
   maintain >50 empirically.
   Elevated LFTs -- now with evidence for shock liver.
   RASH -- [**2-4**] GVHD.  Monitor FS with HISS tapering steroids. Cellcept,
   cyclosporin.
   NUTRITIONAL SUPPORT -- TPN.
   MDS s/p BMT --  Continue Cyclosporine, Ursodiol, Acyclovir, micafungin,
   cellcept, methylprednisolone, budesonide.
   Overall, very poor prognosis.  In context of current severe multisystem
   organ failure and continued decline, CPR not indated (medical
   futility).
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2126-6-29**] 11:11 AM 73 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2126-6-18**] 10:00 AM
   Arterial Line - [**2126-6-18**] 11:00 AM
   Multi Lumen - [**2126-6-25**] 04:55 PM
   Dialysis Catheter - [**2126-6-25**] 07:42 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill